2191-08-22 07:48:00 Physician Resident Progress Note
Chief Complaint: 73 yoM admitted with left SDH c/b seizure, on HD w/o
   residual UOP, and possible line infection on gent/vanco.  Being
   transferred for respiratory distress, hypotension & hypoxia.  Now
   intubated, oxygentating well, likely has PNA per chest Xray and
   fevers.  Continues to require levophed.  Also has h/o afib, not on
   coumadin due to recent SDH.
   24 Hour Events:
 FEVER - 102.4
F - [**2191-8-21**] 08:00 AM
   - patient now covered with vancomycin and cefepime, gentamicin
   discontinued
   - persistent large volumes of bilous return from NGT (it is properly
   placed in stomach), patient is passing flatus and has ABS (no ileus)
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-21**] 02:06 PM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-21**] 08:00 AM
   Midazolam (Versed) - [**2191-8-21**] 08:00 PM
   Fentanyl - [**2191-8-21**] 08:00 PM
   Fosphenytoin - [**2191-8-22**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-22**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.3
C (99.1
   HR: 83 (80 - 99) bpm
   BP: 121/42(60) {70/17(41) - 137/77(82)} mmHg
   RR: 18 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    985 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                    555 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    450 mL
   Urine:
   NG:
                                                                  1,730 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 307 (307 - 350) mL
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 0 cmH2O
   Plateau: 22 cmH2O
   Compliance: 0 cmH2O/mL
   SpO2: 94%
   ABG: 7.31/44/74/23/-4
   Ve: 8.4 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Cardiovascular: NAD
   RRR, no murmur
   Reduced left sided BS
   Abd benign, active BS
   Ext 1+ edema symmetrical
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   12.2 g/dL
   178 mg/dL
   10.4 mg/dL
   23 mEq/L
   4.8 mEq/L
   57 mg/dL
   103 mEq/L
   139 mEq/L
   38.5 %
   14.7 K/uL
        [image002.jpg]
                             [**2191-8-17**]  01:04 PM
                             [**2191-8-18**]  04:15 AM
                             [**2191-8-21**]  02:49 AM
                             [**2191-8-21**]  03:17 AM
                             [**2191-8-21**]  10:02 PM
                             [**2191-8-22**]  04:12 AM
                             [**2191-8-22**]  05:04 AM
   WBC
   14.0
   13.3
   11.7
   14.7
   Hct
   37.8
   40.3
   38.8
   38.5
   Plt
   174
   193
   254
   269
   Cr
   11.9
   12.9
   8.2
   10.4
   TropT
   0.35
   TCO2
   25
   22
   23
   Glucose
   164
   94
   207
   178
   Other labs: PT / PTT / INR:14.8/28.2/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, Differential-Neuts:83.3 %, Lymph:8.0 %, Mono:5.6
   %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR: opacificiation of L hemidiaphram, increased right hilar
   prominence
   Microbiology: blood cultures since [**8-12**], most recent on [**8-22**]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yoM admitted with left SDH c/b seizure, on HD w/o residual UOP, and
   possible line infection on gent/vanco.  Being transferred for
   respiratory distress, hypotension & hypoxia.
   (#) RESPIRATORY DISTRESS: pt has been intubated for respiratory
   distress; likely some element of volume overload given anuric state &
   IVF boluses given for hypotension, it seems he may have also had a less
   aggresive HD session on [**8-20**] due to line issues.  There is some
   question as to whether he also had an aspiration event given his poor
   mental status; he does have some secretions (unclear if much more than
   baseline).  He may have also has a PE given he is not currently
   anticoagulated, unable to tolerate CTA, ? intervention possible if
   bleed
   -- patient intubated for respiratory distress; appears to be
   oxygenating well now
   -- no need for HD acutely given stable on the vent right now; will
   touch base first thing with HD fellow in am
   -- f/u sputum culture
   -- on vancomycin, started on cefepime yesterday
   -- oon versed/fentanyl for sedation
   .
   (#) HYPOTENSION, FEVERS: has been problem[**Name (NI) **] [**Name2 (NI) 8549**] throughout
   this admission; unclear whether he was developing sepsis with concern
   for line infection or some other process. He is being covered for a
   line infection though blood cultures have remained negative.  On
   levophed now peri-intubation.  Episodes seem to be transient.  Does
   have known CAD & CHF, though no echo in system.  No UA/UCx sent b/c
   anuric.  No evidence of skin breakdown or PICC site infection.
   -- cont vanco/cefepime
   -- f/u blood cultures
   -- wean levo as tolerated
   - volume challenge
   (#) High bilious output via NG tube - ? ilius vs SBO.  Also concerned
   for inflammatory process in the abdomen.
   - check liver enzymes, Alk phos, bili
   - amylase lipase
   - KUB
   - RUQ u/s
   (#) ESRD, HD: he was supposed to have a tunneled line on [**8-22**];
   -- cont vanco/cefepime
   -- will touch base with fellow first thing in am
   .
   (#) AFib: rate controlled now; seems to be in sinus rhyhm; not on
   coumadin currently with recent SDH.
   -- cont to follow
   -- not on rate meds currently
   .
   (#) Seizure: no evidence of seziure activity now while in the ICU
   -- cont fosphenytoin
   .
   (#) SDH:
   -- neurology following
   -- holding anticoagulation now, including SQH
   .
   (#) h/o glaucoma, cataracts:
   -- cont home meds
   .
   (#) ASTHMA: does not appear to be acive as no wheezing on exam & pt
   doesn't appear super tight, thoguh may be contributing.
   -- will place on standing inhalers overnight; consider decreasing to
   PRN in am
   .
   (#) DM:
   -- cont SSI + lantus 20/10
   .
   (#) ACCESS: double lumen PICC on right; no HD catheter currently
   .
   (#) Nutrition: NPO currently; no IVF maintenance given c/f volume
   overload
   .
   (#) PPX: pneumoboots (no SQH with recent SDH); on PPI; no need for
   bowel regimen currently.
   .
   (#) CODE: full; confirmed with wife on admission via phone
   .
   (#) DISPO: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-23 07:33:00 Physician Resident Progress Note
Chief Complaint: 73 yoM admitted with left SDH c/b seizure, on HD w/o
   residual UOP, and possible line infection on gent/vanco.  Being
   transferred for respiratory distress, hypotension & hypoxia.
   24 Hour Events:
 SPUTUM CULTURE - At [**2191-8-22**] 12:00 PM
   culture repeated
 ANGIOGRAPHY - At [**2191-8-22**] 03:00 PM
   temporary dialysis line placement.
 DIALYSIS CATHETER - START [**2191-8-22**] 04:10 PM
   sideport
   -Renal: tunneled line okay, check vanco trough daily, if trough between
   15-20 give 500mg IV Vanco, if < 15 give 1gm.
   -lipase mildly elevated, AST, alk phos very mildly elevated; holding
   off on RUQ US
   -prelim read of KUB does not show any obstruction
   - sputum cultures -  positive for GNR and G+ Cocci in Pairs
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-22**] 01:06 PM
   Vancomycin - [**2191-8-22**] 02:11 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-22**] 08:05 AM
   Midazolam (Versed) - [**2191-8-22**] 03:35 PM
   Fentanyl - [**2191-8-22**] 03:36 PM
   Fosphenytoin - [**2191-8-23**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-23**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 80 (77 - 89) bpm
   BP: 108/42(56) {86/22(39) - 128/87(91)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,028 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                    983 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    950 mL
   Urine:
   NG:
                                                                    450 mL
                                                                    950 mL
   Stool:
   Drains:
   Balance:
                                                                    578 mL
                                                                   -879 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 602 (402 - 602) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 10 L/min
   Physical Examination
   Cardiovascular: Gen: NAD, intubated, sedated
   CV: RRR, no r/g/m
   Lungs: CTAB
   Abd: soft, distended, less tense, + BS
   Ext: trace edema, 2+ DP, sacral edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   11.2 g/dL
   175 mg/dL
   12.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   62 mg/dL
   100 mEq/L
   137 mEq/L
   35.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2191-8-17**]  01:04 PM
                             [**2191-8-18**]  04:15 AM
                             [**2191-8-21**]  02:49 AM
                             [**2191-8-21**]  03:17 AM
                             [**2191-8-21**]  10:02 PM
                             [**2191-8-22**]  04:12 AM
                             [**2191-8-22**]  05:04 AM
                             [**2191-8-22**]  04:34 PM
                             [**2191-8-23**]  02:53 AM
   WBC
   14.0
   13.3
   11.7
   14.7
   13.4
   Hct
   37.8
   40.3
   38.8
   38.5
   35.3
   Plt
   174
   193
   254
   269
   317
   Cr
   11.9
   12.9
   8.2
   10.4
   11.4
   12.1
   TropT
   0.35
   TCO2
   25
   22
   23
   Glucose
   164
   94
   [**Telephone/Fax (3) 8596**]
   175
   Other labs: PT / PTT / INR:14.8/28.2/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:16/52, Alk Phos / T Bili:122/1.0,
   Amylase / Lipase:55/88, Differential-Neuts:83.3 %, Lymph:8.0 %,
   Mono:5.6 %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Ca++:9.0 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Imaging: CXR -
   Microbiology: All blood cultures negative to date.
   Sputum Culture [**8-22**] - positive for GNR and G+ Cocci in Pairs
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yoM admitted with left SDH c/b seizure, on HD w/o residual UOP, and
   possible line infection on gent/vanco.  Being transferred for
   respiratory distress, hypotension & hypoxia.
   (#) RESPIRATORY DISTRESS: pt has been intubated for respiratory
   distress; likely some element of volume overload given anuric state &
   IVF boluses given for hypotension.  There is some question as to
   whether he also had an aspiration event given his poor mental status.
   He may have also has a PE given he is not currently anticoagulated,
   unable to tolerate CTA, ? intervention possible if bleed.
   -- patient intubated for respiratory distress; appears to be
   oxygenating well now.
       -- volume overload - w/out HD yesterday, negative since ICU
   admission, but has been receiving IVF boluses prior and again this AM,
   pending possible dialysis today
       -- PNA - Gram stain with GNR and G+ Cocci in pairs , cultures
   pending.  On Vanco and Cefepime.  (Had been on Vanco and Gent since
   [**8-17**], changed to Vanc/Cefepime on [**8-21**]).   He will need daily Vanco and
   Gent troughs for dosing.
   -- f/u sputum culture
   -- d/c versed/fentanyl for sedation
   (#) HYPOTENSION, FEVERS: has been problem[**Name (NI) **] [**Name2 (NI) 8549**] throughout
   this admission; Sepsis high on differential from pneumonia.  He has
   been treated for line infection since [**8-17**] for fever.  Central
   hypotension also possible given recent SDH.  Continues to be on
   levophed, despite trying to wean.  He responds only briefly to fluids.
   Other concern is lack of good measurement.  Currently obtaining calf
   pressure, questionable accuracy.  Has PICC in one arm, for periods.
   Episodes seem to be transient.  Does have known CAD & CHF, though no
   echo in system.
   -- cont vanco/cefepime
   -- f/u blood cultures, sputum cultures
   -- wean levo as tolerated
   -- volume challenge this AM
   (#) High bilious output via NG tube - ? ilius vs SBO.  Also concerned
   for inflammatory process in the abdomen.  950cc out over 25 hrs, half
   the amount yesterday.  KUB benign, and pt had BM yesterday.  Liver
   enzymes unimpressive.
   - improving, continue to follow.
   - recheck liver enzymes for trend
   - guaic pos aspirate, [**Hospital1 **] PPI
   (#) ESRD, HD: had a temp line he was supposed to have a tunneled line
   on [**8-22**]; volume overloaded, but about .5 L positive since ICU due to NG
   output.
   -- cont vanco/cefepime
   -- CVVH vs dialysis today
   (#) AFib: rate controlled now; seems to be in sinus rhyhm; not on
   coumadin currently with recent SDH.
   -- cont to follow
   -- not on rate meds currently
   (#) Seizure: no evidence of seziure activity now while in the ICU
   -- cont fosphenytoin
   (#) SDH:
   - - touch base with neurology regarding prognosis
   -- neurology following
   -- holding anticoagulation now, including SQH
   (#) h/o glaucoma, cataracts:
   -- cont home meds
   .
   (#) ASTHMA: does not appear to be acive as no wheezing on exam & pt
   doesn't appear super tight, thoguh may be contributing.
   -- will place on standing inhalers overnight; consider decreasing to
   PRN in am
   (#) DM:
   -- cont SSI + lantus 20/10, blood sugars increasing in setting of
   infection.  will tighten sliding scale rather than basal
   (#) ACCESS: double lumen PICC on right; no HD catheter currently
   (#) Nutrition: NPO currently; no IVF maintenance given c/f volume
   overload
   (#) PPX: pneumoboots (no SQH with recent SDH); on PPI; bowel reg
   (#) CODE: full; confirmed with wife on admission via phone
   (#) DISPO: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-24 06:56:00 Physician Resident Progress Note
Chief Complaint: 73 yom with anuric ESRD HD-dependent intially admitted
   s/p fall suffering an acute on chronic subdural hematoma c/b seizure,
   transferred to the MICU for respiratory distress, hypoxia, fever and
   hypotension.  Patient's HD line was pulled out of concern for
   bacteremia in setting of persistent fevers and most recent sputum
   cultures show GNR and GPC on GS.
   24 Hour Events:
   - axillary arterial line placed showing pressures higher than measured
   by non-invassive
   - CVVH started but was stopped prematurely because of line difficulties
   - clots in temporay line
   - Pharmacy dosing: Vancomycin 1gm q 24 and cefepime 1 gm q 12
   - Neuro dosing: fosphenytoin dosing 200 AM/100 PM/100 HS
   - Neuro consulted re: prognosis and could not elaborate do to co-morbid
   illnesses
   - Total HD output 60 cc
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-22**] 02:11 PM
   Cefipime - [**2191-8-24**] 02:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-23**] 09:10 PM
   Fosphenytoin - [**2191-8-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-24**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 90 (78 - 93) bpm
   BP: 95/42(60) {94/41(60) - 135/59(89)} mmHg
   RR: 29 (13 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    789 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                    789 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    400 mL
   Urine:
   NG:
                                                                  1,400 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -671 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (345 - 537) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 89
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.31/33/163/18/-8
   Ve: 10.2 L/min
   PaO2 / FiO2: 408
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   312 K/uL
   10.2 g/dL
   180 mg/dL
   12.5 mg/dL
   18 mEq/L
   4.2 mEq/L
   66 mg/dL
   102 mEq/L
   139 mEq/L
   32.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2191-8-21**]  03:17 AM
                             [**2191-8-21**]  10:02 PM
                             [**2191-8-22**]  04:12 AM
                             [**2191-8-22**]  05:04 AM
                             [**2191-8-22**]  04:34 PM
                             [**2191-8-23**]  02:53 AM
                             [**2191-8-23**]  02:26 PM
                             [**2191-8-23**]  02:28 PM
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
   WBC
   11.7
   14.7
   13.4
   11.9
   Hct
   38.8
   38.5
   35.3
   33.7
   32.8
   Plt
   [**Telephone/Fax (3) 8603**]12
   Cr
   8.2
   10.4
   11.4
   12.1
   12.6
   12.5
   TCO2
   22
   23
   23
   17
   Glucose
   [**Telephone/Fax (3) 8604**]75
   177
   180
   Other labs: PT / PTT / INR:14.8/28.2/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:16/52, Alk Phos / T Bili:122/1.0,
   Amylase / Lipase:55/88, Differential-Neuts:83.3 %, Lymph:8.0 %,
   Mono:5.6 %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:4.0 mg/dL
   Microbiology
   - blood Cx [**8-21**]:  pending
   - blood Cx [**8-22**]: pending
   - sputum Cx [**8-21**]: contamination
   - sputum Cx [**8-22**]: 2+ GNR, 1+ GPC in pairs
   - MRSA [**8-21**]: pending
   - C. Diff [**8-24**]: pending
   Imaging
   - CXR [**8-23**]: slight improvement in overall pulmonary edema, unchaged
   bibasilar atelectasis, low lung volumes
   - CXR [**8-24**]:
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Respiratory Distress: etiology includes volume overload given
   resuscitation with anuric renal failure and likely PNA supported by
   sputum GS significant for GNR and GPC.  Barriers to intubation include
   mental status, fluid overload and underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: replaced temporary dialysis catheter with tunneled
   line vs. additional temporary catheter via IR, pressures have been
   stable and may be suitable for HD vs. CVVH today
   - pneumonia: continue vanomycin (day 8) and cefepime ([**2-23**]) for GP and
   GN coverage
 will adjust as cultures and sensitivies return
   - mental status: continue no sedation for further evaluation of mental
   status
   # Hypotension / Fevers: s/p axillary a-line  placement with adequate
   pressures off pressors since line placed.  This suggests that
   non-invassive pressures may have been inaccurate.  Patient has remained
   afebrile since [**8-21**].
   - continue vancomycin / cefepime for concern of pneumosepsis pending
   cultures and sensitivities
   # High Bilious Output: continued high output now 1500 cc per day in
   setting of BM suggesting now obstruction or ileus.  This may represent
   inflammatory process without outflow obstruction.
   - continue [**Hospital1 **] PPI with daily guiacs to evaluate for continued bleeding
   - consider replacing NGT as may have migrated to inappropriate position
   # ESRD: patient attempted CVVH yesterday but line problems prevented
   full session.  Patient remains clinically volume overloaded with
   negative fluid balance while in ICU do to elevated NG output.
   - replaced temporary dialysis catheter today vs. tunneled catheter
   today
   - consult renal re: CVVH vs. HD now with adequate pressures
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right (not functioning); axillary A-line
   # Nutrition: consult regarding TPN
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-25 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - duplex US of RUEx: non-occlusive thrombus along PICC in the right
   axillary vein, with peripheral flow noted, does not propagate centrally
   into SCV, brachial veins are patent
   - PICC pulled and temporary line placed by IR and HD initiated with 2L
   taken off
   - sedation discontinued but patient remains unresponsive, no withdrawal
   of upper extremities
   - neuro: SDH alone likely not sole cause of altered MS, likely
   multifactorial secondary to infection, uremia, seizures - check daily
   dilantin levels
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-22**] 02:11 PM
   Cefipime - [**2191-8-25**] 03:14 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-8-24**] 02:00 PM
   Fentanyl - [**2191-8-24**] 02:45 PM
   Pantoprazole (Protonix) - [**2191-8-24**] 08:17 PM
   Fosphenytoin - [**2191-8-25**] 01:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-25**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.3
   HR: 92 (80 - 99) bpm
   BP: 97/43(62) {84/31(47) - 151/62(95)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    290 mL
                                                                    136 mL
   PO:
             TF:
   IVF:
                                                                    290 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,160 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (331 - 448) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 89
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.36/41/118/23/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Cardiovascular: Gen: NAD, sedated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   10.2 g/dL
   172 mg/dL
   7.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   32 mg/dL
   102 mEq/L
   142 mEq/L
   33.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2191-8-22**]  04:12 AM
                             [**2191-8-22**]  05:04 AM
                             [**2191-8-22**]  04:34 PM
                             [**2191-8-23**]  02:53 AM
                             [**2191-8-23**]  02:26 PM
                             [**2191-8-23**]  02:28 PM
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
                             [**2191-8-25**]  03:35 AM
                             [**2191-8-25**]  04:35 AM
   WBC
   14.7
   13.4
   11.9
   11.2
   Hct
   38.5
   35.3
   33.7
   32.8
   33.5
   Plt
   [**Telephone/Fax (3) 8628**]22
   Cr
   10.4
   11.4
   12.1
   12.6
   12.5
   7.9
   TCO2
   23
   23
   17
   24
   Glucose
   178
   222
   175
   177
   180
   172
   Other labs: PT / PTT / INR:14.8/28.2/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:16/52, Alk Phos / T Bili:122/1.0,
   Amylase / Lipase:55/88, Differential-Neuts:83.3 %, Lymph:8.0 %,
   Mono:5.6 %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: Phenytoin 5.1
   Imaging: RUE U/S : (Prelim) Nonocclusive thrombus along the PICC in the
   right axillary vein, with peripheral flow noted. Does not propagate
   centrally into the subclavian vein at this time. No thrombus noted more
   distally, brachial veins are patent.
   Microbiology: All Blood Cx negative to date.
   Sputum - [**8-22**] +   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   Growth - sparse Coag+ Staph
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Respiratory Distress: etiology includes volume overload given
   resuscitation with anuric renal failure and likely PNA supported by
   sputum GS significant for GNR and GPC.  Barriers to intubation include
   mental status, fluid overload and underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: replaced temporary dialysis catheter another
   temporary catheter via IR, pressures have been stable, went for HD
   yesterday
   - pneumonia: continue vanomycin (day 9) and cefepime (9) for GP and GN
   coverage
 will adjust as cultures and sensitivies return
   - mental status: continue no sedation for further evaluation of mental
   status
   # Hypotension / Fevers: s/p axillary a-line  placement with adequate
   pressures off pressors since line placed.  This suggests that
   non-invassive pressures may have been inaccurate.  Patient has remained
   afebrile since [**8-21**].  Low grade to 100.2 overnight.
   - continue vancomycin / cefepime for concern of pneumosepsis pending
   cultures and sensitivities
   - repeat sputum cx
   # High Bilious Output: continued high output now 450cc per day(down
   from 1500 - 2000cc) in setting of BM suggesting now obstruction or
   ileus.  This may represent inflammatory process without outflow
   obstruction.  Livern enzymes do not support inflammatory process of
   gallbladder or pancreas.   Hct trending down.  Hct 33.5 today.
   Transfuse if < 21.
   - continue [**Hospital1 **] PPI with daily guiacs to evaluate for continued bleeding
   - curbside GI regarding etiologies of high NG output
   # ESRD: patient attempted CVVH yesterday but line problems prevented
   full session.  Patient remains clinically volume overloaded with
   negative fluid balance while in ICU do to elevated NG output.
   - replaced temporary dialysis catheter yesterday
   - HD now with adequate pressures, dialysis again today
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # Right Upper Extremity Swelling: f/u duplex ultrasound to evaluate for
   DVT
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right (not functioning); axillary
   A-line, temp line for HD
   # Nutrition: consult regarding TPN
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-25 10:57:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   SDH
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with non-occlusive thrombus noted in upper extremity and PICC
   line pulled.
   HD--2 liters negative completed without incident
   Sedation off and patient with persistent decrease in mental status.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-22**] 02:11 PM
   Cefipime - [**2191-8-25**] 03:14 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-8-24**] 02:00 PM
   Fentanyl - [**2191-8-24**] 02:45 PM
   Pantoprazole (Protonix) - [**2191-8-24**] 08:17 PM
   Fosphenytoin - [**2191-8-25**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-25**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 100 (80 - 100) bpm
   BP: 89/41(57) {84/31(47) - 151/62(95)} mmHg
   RR: 18 (12 - 36) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    290 mL
                                                                    204 mL
   PO:
             TF:
   IVF:
                                                                    290 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,310 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (331 - 448) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.36/41/118/23/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, Minimal Grimace
he will withdraw lower extremities to
   simulation.  Very decreased pain sensation.
   Labs / Radiology
   10.2 g/dL
   322 K/uL
   172 mg/dL
   7.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   32 mg/dL
   102 mEq/L
   142 mEq/L
   33.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2191-8-22**]  04:12 AM
                             [**2191-8-22**]  05:04 AM
                             [**2191-8-22**]  04:34 PM
                             [**2191-8-23**]  02:53 AM
                             [**2191-8-23**]  02:26 PM
                             [**2191-8-23**]  02:28 PM
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
                             [**2191-8-25**]  03:35 AM
                             [**2191-8-25**]  04:35 AM
   WBC
   14.7
   13.4
   11.9
   11.2
   Hct
   38.5
   35.3
   33.7
   32.8
   33.5
   Plt
   [**Telephone/Fax (3) 8628**]22
   Cr
   10.4
   11.4
   12.1
   12.6
   12.5
   7.9
   TCO2
   23
   23
   17
   24
   Glucose
   178
   222
   175
   177
   180
   172
   Other labs: PT / PTT / INR:14.8/28.2/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:16/52, Alk Phos / T Bili:122/1.0,
   Amylase / Lipase:55/88, Differential-Neuts:83.3 %, Lymph:8.0 %,
   Mono:5.6 %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-no new
   Microbiology: Blood Cultures--negative
   Sputum--1+ GPC, 2+ GNR and growth of sparse GPC--from [**8-22**]
   Assessment and Plan
   73 yo male with h/o Chronic Renal Failure and now has SDH complicated
   by seizure, altered mental status and now with fevers and concern for
   sepsis and now with patient showing persistent and concerning
   alteration in mental status even with sedation discontinued.
   1)Respiratory Failure-Patient with persistent volume overload and
   concern for pneumonia at this time.  In the setting of persistent
   alteration of mental status will need to continue invasive support.
   -Continue with broad antibiotic support
   -Suction as needed
   -Wean in PSV mode going forward
   2)Altered Mental Status-In setting of Sub-Dural Hematoma, seizure and
   signficant toxic/metabolic insult but with very slow to improve
   responsiveness with sedation discontinued
   -Dliantin
   -Hold sedation
   -Follow exam
   -EEG and repeat head imaging if not able to see trend to improved
   alertness
   3)Pneumonia-
   -Cefepime/Vanco to continue
   -High stool output to be followed
we see suggestion of ileus and
   continued drainge leading to decompression
   4)Renal Failure-
   _Continue with HD
   -Will continue to maintain negative fluid balance.
   ICU Care
   Nutrition: npo
will need TPN to be considered
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
will pull PICC with thrombus seen
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2191-08-26 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.3
F - [**2191-8-25**] 08:00 PM
   -dilantin level within normal ranges after adjusting for low albumin
   (14)
   -sputum cultures show 2+ gram - and 1+ gram positive consistent with
   MRSA
   -no neuro recs left
   -nutrition consulted but did not leave TPN recs yet
   -fever spiked to 102.4 around 8 pm and was re-pancultured
   -around 1 AM BP fell to 70s systolic when nursing turned patient; after
   repositioning, BP failed to improve, was given a 500 cc NS bolus.  Pt
   was restarted on levo to maintain pressures.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-25**] 02:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-8-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-26**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100
   HR: 105 (89 - 108) bpm
   BP: 103/42(63) {70/30(43) - 175/70(109)} mmHg
   RR: 28 (18 - 53) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    386 mL
                                                                    573 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    276 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (394 - 488) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 82
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.28/34/96.[**Numeric Identifier 274**]/17/-9
   Ve: 11.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Cardiovascular: Gen: unresponsive to voice/command.
   CV: RRR, nl S1/S2.  no r/g/m
   Lungs: reduced BS at bases
   Abd: distended, not tense.  No sign of tenderness.  ABS.
   Extremiteis: no c/c/e.  Sacral edema
   Neuro: Does not respond to sternal rub.  Withdraws to pain stimulus in
   feet
   Labs / Radiology
   299 K/uL
   9.9 g/dL
   213 mg/dL
   5.8 mg/dL
   17 mEq/L
   3.6 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   32.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2191-8-23**]  02:26 PM
                             [**2191-8-23**]  02:28 PM
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
                             [**2191-8-25**]  03:35 AM
                             [**2191-8-25**]  04:35 AM
                             [**2191-8-25**]  05:40 PM
                             [**2191-8-26**]  02:26 AM
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
   WBC
   11.9
   11.2
   13.7
   Hct
   33.7
   32.8
   33.5
   34.6
   32.4
   Plt
   [**Telephone/Fax (3) 8641**]
   Cr
   12.6
   12.5
   7.9
   5.8
   TCO2
   23
   17
   24
   18
   17
   Glucose
   177
   180
   172
   213
   Other labs: PT / PTT / INR:23.7/40.6/2.3, ALT / AST:21/49, Alk Phos / T
   Bili:162/0.8, Amylase / Lipase:55/88, Albumin:2.6 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: Vanco - 16.4
   Imaging: CXR: inreased hilar density.  No effusions
   Microbiology: Sputum cultures [**2191-8-22**]- MRSA
   All blood cultures negative to date.
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Respiratory Distress: etiology includes volume overload given
   resuscitation with anuric renal failure and likely PNA supported by
   sputum GS significant for GNR and GPC.  Barriers to intubation include
   mental status, fluid overload and underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: continue HD
   - [**First Name3 (LF) 5925**]: continue vanomycin (day 10) and cefepime (10) for GP and
   GN coverage
 will adjust as cultures and sensitivies return
   - mental status: continue no sedation for further evaluation of mental
   status, correct electrolyte disturbances, treat infection
   # Hypotension / Fevers: s/p axillary a-line  placement with adequate
   pressures off pressors since line placed.  This suggests that
   non-invassive pressures may have been inaccurate.  Patient has remained
   afebrile since [**8-21**].  Spiked temperatures overnight.  Pt was pan
   cultured.  Pt has known MRS [**Last Name (STitle) 5925**].  Has completed a course of vanco
   today.
   - continue vancomycin / cefepime for concern of pneumosepsis pending
   cultures and sensitivities
   - f/u cultures
   - CXR
   # High Bilious Output: continued output, reduced to about  300cc over
   last 24 hrs (down from 1500 - 2000cc).  He is having BM and Xray
   confirmed no obstruction or ileus.  This may represent inflammatory
   process without outflow obstruction. However, liver enzymes do not
   support inflammatory process of gallbladder or pancreas.   Hct trending
   down.  Hct 32.4 today.  Transfuse if < 21.
   - continue [**Hospital1 **] PPI with daily guiacs to evaluate for continued bleeding
   - repeat guaic of output
   # ESRD: patient attempted CVVH yesterday but line problems prevented
   full session.  Patient remains clinically volume overloaded with
   negative fluid balance while in ICU do to elevated NG output.
   - HD now with adequate pressures, dialysis again today
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  f/u with IV team regarding need to d/c PICC
   - pt has poor access
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right; axillary A-line, temp line for HD
   # Nutrition: consult regarding TPN
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-26 11:50:00 Physician Attending Progress Note
Chief Complaint: Sub-Dural Hematoma
   respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.3
F - [**2191-8-25**] 08:00 PM
   History obtained from Patient
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-25**] 02:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-8-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dialysis
   Flowsheet Data as of  [**2191-8-26**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.2
   HR: 105 (89 - 108) bpm
   BP: 103/42(63) {70/30(43) - 175/70(109)} mmHg
   RR: 28 (22 - 53) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    386 mL
                                                                    633 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    276 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (330 - 455) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.28/34/96.[**Numeric Identifier 274**]/17/-9
   Ve: 9.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, He will move his lower
   extremities to stimulation but without reliable withdrawl to pain which
   is a paradox.  He does grimace with stimulation but no organized
   responses seen.  He is without obvious clonus but this exam is without
   change despite 3 days off of sedation.
   Labs / Radiology
   9.9 g/dL
   299 K/uL
   213 mg/dL
   5.8 mg/dL
   17 mEq/L
   3.6 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   32.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2191-8-23**]  02:26 PM
                             [**2191-8-23**]  02:28 PM
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
                             [**2191-8-25**]  03:35 AM
                             [**2191-8-25**]  04:35 AM
                             [**2191-8-25**]  05:40 PM
                             [**2191-8-26**]  02:26 AM
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
   WBC
   11.9
   11.2
   13.7
   Hct
   33.7
   32.8
   33.5
   34.6
   32.4
   Plt
   [**Telephone/Fax (3) 8641**]
   Cr
   12.6
   12.5
   7.9
   5.8
   TCO2
   23
   17
   24
   18
   17
   Glucose
   177
   180
   172
   213
   Other labs: PT / PTT / INR:23.7/40.6/2.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:21/49, Alk Phos / T Bili:162/0.8,
   Amylase / Lipase:55/88, Differential-Neuts:83.3 %, Lymph:8.0 %,
   Mono:5.6 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: Vanco-Pending
   Imaging: CXR-ETT at 2cm HD catheter in place, RLL opacity
   Sputum
[**8-22**]==MRSA
   Assessment and Plan
   Patient with initial history notable for sub-dural hematoma complicated
   by seizures subsequently who now has persistent renal failure and
   recurrent fever in the setting of sepsis.  Of concern is that patient
   has had evidence of significant fever in the setting of a mild rise in
   WBC count.  This is without localizing laboratory findings.
   1)Sepsis-
   -Levophed
   -Vanco/Cefepime
   -Will resend cultures from blood, sputum and urine
   -Will continue Vanco at this time
   -Follow cultures
   -Will go to broad spectrum antibiotics in the setting of increased
   pressor requirements
   -Will have to expand to coverage to focus on VAP with Vanco/Meropenem
   2)Respiratory Failure-
   -Atrovent/Albuterol
   -Continue with PSV support
   -Maintain O2
   3)Renal Failure-
   -Will move to CVVH in the setting of hypotension if unable to tolerate
   HD over next 24 hours
   4)Sub-Dural Hematoma/Altered Mental Status-He has persistent deficit as
   described above
   -Will repeat head CT to evaluate stability of bleed or new obvious
   insult
   -Will follow neuro exam
   -Will continue hold of sedation and follow exam
   -Without trend to improvement will have to raise concern for persistent
   neurologic deficit
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   ICU Care
   Nutrition:  TPN to start
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2191-08-27 08:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2191-8-26**] 04:00 PM
   -No bands in diff, but given hypotension, fever and elevated white
   count, recultured and broadened coverage to meropenem, Gentamycin and
   Vanco.
   - CT head - results pending
   - Hold off on LP, neuro doesn't think this is neurological as symptoms
   are improving
   - spoke with daughter: she's seen him like this before when he's
   azotemic. waiting for a few more cycles of dialysis to see if he
   improves.
   - HD or CVVH tomorrow as pt can tolerate.
   - neurology thinks he will improve with tx of infection
   - TPN started
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-26**] 08:00 AM
   Vancomycin - [**2191-8-26**] 07:00 PM
   Gentamicin - [**2191-8-26**] 08:45 PM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-26**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-27**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 96 (91 - 105) bpm
   BP: 139/56(87) {93/38(59) - 151/61(94)} mmHg
   RR: 29 (22 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,477 mL
                                                                    452 mL
   PO:
             TF:
   IVF:
                                                                  1,222 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,477 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (380 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 76
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.36/37/86.[**Numeric Identifier **]/20/-3
   Ve: 5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   314 K/uL
   10.2 g/dL
   392 mg/dL
   8.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   32.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
                             [**2191-8-25**]  03:35 AM
                             [**2191-8-25**]  04:35 AM
                             [**2191-8-25**]  05:40 PM
                             [**2191-8-26**]  02:26 AM
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
   WBC
   11.9
   11.2
   13.7
   14.3
   Hct
   32.8
   33.5
   34.6
   32.4
   32.8
   Plt
   [**Telephone/Fax (3) 8652**]14
   Cr
   12.5
   7.9
   5.8
   8.0
   TCO2
   17
   24
   18
   17
   22
   Glucose
   180
   172
   213
   392
   Other labs: PT / PTT / INR:18.1/35.0/1.6, Differential-Neuts:77.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR - RLL Opacity, increased haziness consistent with
   pulmonary edema
   Microbiology: Gram stain [**8-26**] - Gram pos cocci in pairs and clusters
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Respiratory Distress: etiology includes volume overload given
   resuscitation with anuric renal failure and likely PNA supported by
   sputum GS significant for GNR and GPC.  Barriers to intubation include
   mental status, fluid overload and underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: continue HD
   - pneumonia, completed 10 day course
   - continue vanomycin (day 10)
   - treating for  VAP (fever in setting of hypotension) - Gentamycin day
   1, Meropenem day 1, Vancomycin Day 11 for GP and GN coverage
 will
   adjust as cultures and sensitivies return
   - mental status: continue no sedation for further evaluation of mental
   status, correct electrolyte disturbances, treat infection
   # Hypotension / Fevers: Spiked temperatures overnight.  Pt was pan
   cultured.  Pt has known MRSA pneumonia.  Has completed a course of
   vanco today.   Hypotension as also noted and pt was restarted on
   levophed
   - continue vancomycin / cefepime for concern of pneumosepsis pending
   cultures and sensitivities
   - f/u cultures
   - CXR
   - continue levophed for hypotension, avoid aggressive volume
   - CT head
   # Sinus tachy with aberrancy
 continue strict monitoring of
   electrolytes.  Called renal to discuss HD or CVVH.  Recommended
   starting it tomorrow.  Continue monitoring on tele.
   # High Bilious Output: continued output, reduced to about  300cc over
   last 24 hrs (down from 1500 - 2000cc).  He is having BM and Xray
   confirmed no obstruction or ileus.  This may represent inflammatory
   process without outflow obstruction. However, liver enzymes do not
   support inflammatory process of gallbladder or pancreas.   Hct stable.
   Transfuse if < 21.
   - improved significantly,
   - attempt NG
   - continue [**Hospital1 **] PPI
   # ESRD: CVVH today
   - touch base with renal regarding when dialysis can restart, now that
   he is off pressors
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  will not pull out PICC as non-occlusive
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right; axillary A-line, temp line for HD
   # Nutrition: consult regarding TPN
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2191-8-26**] 07:05 PM 41.[**Telephone/Fax (5) 5121**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-27 11:21:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, respiratory failure, septic
   shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Temp spike yest with hotn -- abx expanded to [**Last Name (un) **]/gent/vanc
   24 Hour Events:
 FEVER - 101.4
F - [**2191-8-26**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-26**] 08:00 AM
   Vancomycin - [**2191-8-26**] 07:00 PM
   Gentamicin - [**2191-8-26**] 08:45 PM
   Meropenem - [**2191-8-27**] 08:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-27**] 08:48 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-8-27**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 100 (91 - 105) bpm
   BP: 105/52(70) {93/38(59) - 151/62(94)} mmHg
   RR: 28 (22 - 40) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,477 mL
                                                                    669 mL
   PO:
             TF:
   IVF:
                                                                  1,222 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,477 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (380 - 438) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.36/37/86.[**Numeric Identifier **]/20/-3
   Ve: 11.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   314 K/uL
   392 mg/dL
   8.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   32.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2191-8-24**]  04:51 AM
                             [**2191-8-24**]  05:04 AM
                             [**2191-8-25**]  03:35 AM
                             [**2191-8-25**]  04:35 AM
                             [**2191-8-25**]  05:40 PM
                             [**2191-8-26**]  02:26 AM
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
   WBC
   11.9
   11.2
   13.7
   14.3
   Hct
   32.8
   33.5
   34.6
   32.4
   32.8
   Plt
   [**Telephone/Fax (3) 8652**]14
   Cr
   12.5
   7.9
   5.8
   8.0
   TCO2
   17
   24
   18
   17
   22
   Glucose
   180
   172
   213
   392
   Other labs: PT / PTT / INR:18.1/35.0/1.6, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:28/54, Alk Phos / T Bili:176/0.8,
   Amylase / Lipase:55/88, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:240 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Sepsis-
   Off pressors - cont vanc/[**Last Name (un) **]/gent.  Follow fever curve
   2)Respiratory Failure-
   Cont PSV --> will intiate CVVH and hope that improvement in fluid
   status and mental status bring us closer to extubation
   3)Renal Failure-
   CVVH today
   4)Sub-Dural Hematoma/Altered Mental Status- Holding sedation
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2191-8-26**] 07:05 PM 20 mL/hour
   Comments: start TFs today
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Comments: non-occlusive thrombus on PICC --> monitoring closely
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 32 minutes
   Patient is critically ill

2191-08-28 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-26**]
   -No bands in diff, but given hypotension, fever and elevated white
   count, recultured and broadened coverage to meropenem, Gentamycin and
   Vanco.
   - CT head - results pending
   - Hold off on LP, neuro doesn't think this is neurological as symptoms
   are improving
   - spoke with daughter: she's seen him like this before when he's
   azotemic. waiting for a few more cycles of dialysis to see if he
   improves.
   - HD or CVVH tomorrow as pt can tolerate.
   - neurology thinks he will improve with tx of infection
   - TPN started
   [**8-27**]
   -Insulin at 420 - 450 in morning, given 10 units insulin, then 15,
   without significant effect.  Blood sugar likely due to starting TPN
   yesterday.
   -Started glargine 12 QHS (first dose given now, will hold tonight).
   -Sliding scale increased.
   -nutrition recommended goal tube feeds of 60 ml/hr.
   -insulin drip started, after BS unresponsive to sliding scale.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-26**] 08:00 AM
   Gentamicin - [**2191-8-26**] 08:45 PM
   Vancomycin - [**2191-8-27**] 12:01 PM
   Meropenem - [**2191-8-27**] 08:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Insulin - Regular - 7 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-27**] 08:48 AM
   Fentanyl - [**2191-8-28**] 06:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-28**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 90 (83 - 100) bpm
   BP: 146/61(94) {94/41(62) - 156/63(97)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,001 mL
                                                                    542 mL
   PO:
             TF:
                                                                    335 mL
                                                                    296 mL
   IVF:
                                                                    870 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,176 mL
                                                                    740 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    825 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (380 - 479) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 61
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/37/91.[**Numeric Identifier **]/22/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   287 K/uL
   10.8 g/dL
   233 mg/dL
   5.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   35.1 %
   20.4 K/uL
        [image002.jpg]
                             [**2191-8-25**]  05:40 PM
                             [**2191-8-26**]  02:26 AM
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
                            [**2191-8-27**]  02:14 PM
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
   WBC
   13.7
   14.3
   16.5
   20.4
   Hct
   34.6
   32.4
   32.8
   33.1
   35.1
   Plt
   299
   314
   310
   287
   Cr
   5.8
   8.0
   8.6
   5.8
   TCO2
   18
   17
   22
   21
   21
   Glucose
   [**Telephone/Fax (3) 8659**]01
   233
   Other labs: PT / PTT / INR:14.9/28.7/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:28/54, Alk Phos / T Bili:176/0.8,
   Amylase / Lipase:55/88, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:240 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Imaging:  [**8-26**] CXR, and CXR from [**8-27**] not appreciably changed
   IMPRESSION: Mild pulmonary vascular congestion. Bibasilar atelectasis.
   CT head [**8-27**]:
   1. No significant change in evolving subdural hematoma overlying the
   left
   cerebral convexity, with minimal mass effect, unchanged from prior
   exams.
   2. No new hemorrhage or mass effect.
   Microbiology: MRSA PNA [**8-22**] (from sputum culture)
   blood cxs, urine cxs negative or pending
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Respiratory Distress: etiology includes volume overload given
   resuscitation with anuric renal failure and likely PNA supported by
   sputum GS significant for GNR and GPC.  Barriers to intubation include
   mental status, fluid overload and underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: continue HD
   - pneumonia, completed 10 day course
   - continue vanomycin (day 10)
   - treating for  VAP (fever in setting of hypotension) - Gentamycin day
   2, Meropenem day 2, Vancomycin Day 12 for GP and GN coverage
 will
   adjust as cultures and sensitivies return : recheck sputum cultures as
   had too many epi cells
   - checking gent level today if < 2 continue gent
   - mental status: continue no sedation for further evaluation of mental
   status, correct electrolyte disturbances, treat infection
   # Hypotension / Fevers: Fevers largely resolved.  Pt was pan cultured.
   Pt has known MRSA pneumonia.  Hypotension as also noted and pt was
   restarted on levophed yesterday and has required levophed off and on.
   - continue vancomycin / meropenem
   - f/u cultures
   - CXR
   - continue levophed for hypotension, avoid aggressive volume
   - CT head
   # Sinus tachy with aberrancy
 continue strict monitoring of
   electrolytes.  Called renal to discuss HD or CVVH.  Recommended
   starting it tomorrow.  Continue monitoring on tele.
   # High Bilious Output:  Resolved.  Is able to tolerate TF with clear
   residuals.  He is having BM and Xray confirmed no obstruction or ileus.
   - improved significantly,
   - continued TF
   - continue [**Hospital1 **] PPI
   # ESRD:
   - touch base with renal regarding when dialysis can restart, still
   requiring pressors off and on
   -check BPs manually on left arm to correlate to A-line since A-line
   pressures could be affected by clot on right side (?)
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  will not pull out PICC as non-occlusive
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right; axillary A-line, temp line for HD
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-8-28**] 03:35 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-28 12:45:00 Physician Attending Progress Note
Chief Complaint: Septic shock, respiratory failure, renal failure,
   subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CVVH had to be stopped due to clotting filters
   No change in SDH on head CT yesterday
   24 Hour Events:
 SPUTUM CULTURE - At [**2191-8-27**] 03:05 PM
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-26**] 08:00 AM
   Gentamicin - [**2191-8-26**] 08:45 PM
   Vancomycin - [**2191-8-27**] 12:01 PM
   Meropenem - [**2191-8-28**] 07:49 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Fentanyl - [**2191-8-28**] 06:23 AM
   Pantoprazole (Protonix) - [**2191-8-28**] 07:49 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-8-28**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 99 (83 - 100) bpm
   BP: 115/57(79) {94/41(62) - 156/63(97)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,001 mL
                                                                  1,484 mL
   PO:
             TF:
                                                                    335 mL
                                                                    500 mL
   IVF:
                                                                    870 mL
                                                                    834 mL
   Blood products:
   Total out:
                                                                  1,176 mL
                                                                    762 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    825 mL
                                                                    722 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (380 - 479) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/37/91.[**Numeric Identifier **]/22/-4
   Ve: 9.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, slightly
   more arousable today
   Labs / Radiology
   10.8 g/dL
   287 K/uL
   233 mg/dL
   5.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   35.1 %
   20.4 K/uL
        [image002.jpg]
                             [**2191-8-25**]  05:40 PM
                             [**2191-8-26**]  02:26 AM
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
                            [**2191-8-27**]  02:14 PM
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
   WBC
   13.7
   14.3
   16.5
   20.4
   Hct
   34.6
   32.4
   32.8
   33.1
   35.1
   Plt
   299
   314
   310
   287
   Cr
   5.8
   8.0
   8.6
   5.8
   TCO2
   18
   17
   22
   21
   21
   Glucose
   [**Telephone/Fax (3) 8659**]01
   233
   Other labs: PT / PTT / INR:14.9/28.7/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:28/54, Alk Phos / T Bili:176/0.8,
   Amylase / Lipase:55/88, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:240 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Sepsis-
   Off pressors - cont vanc/[**Last Name (un) **]/gent.  Completing planned 12 day course
   of vanc.  Need to follow WBC --> trending up
   2)Respiratory Failure-
   Tolerating PSV well - unfortunately, unable to continue CVVH to manage
   volume and hopefully help inprove MS.  Renal team will try HD tomorrow
   3)Renal Failure-
   HD tomorrow
   4)Sub-Dural Hematoma/Altered Mental Status- Continue to hold sedation
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   6)PICC line clot: Recheck ultrasound
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-8-28**] 09:34 AM 40 mL/hour
   Comments: tolerating TDs
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-08-29 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2191-8-28**] 04:00 PM
   -CVVH filter clotted for unclear reasons; re-ordered repeat Rt upper
   extremity US (initially had clot in PICC on rt) to ensure no further
   extension however by evening still not done/no read on it
   -pressures in the AM initially low in the 80s; has not required
   levophed however as pressures rose spontaneously to 110s - 120s
   -tolerating tube feeds with normal residuals/ no biliary output
   anylonger
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-8-26**] 08:00 AM
   Gentamicin - [**2191-8-26**] 08:45 PM
   Vancomycin - [**2191-8-28**] 04:06 PM
   Meropenem - [**2191-8-28**] 08:23 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-28**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-29**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 93 (88 - 106) bpm
   BP: 137/48(82) {89/34(52) - 142/57(295)} mmHg
   RR: 21 (20 - 60) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,641 mL
                                                                    649 mL
   PO:
                                                                     60 mL
             TF:
                                                                    793 mL
                                                                    307 mL
   IVF:
                                                                  1,538 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                    762 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,879 mL
                                                                    649 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 361 (361 - 458) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 102
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 9.8 L/min
   Physical Examination
   Cardiovascular: Gen: sedated, will open eyes to touch.
   CV: RRR
   Lungs: CTAB
   Abd: distended ABS
   Ext: no c/c/e
   Neuro: does not respond to command
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   9.3 g/dL
   81 mg/dL
   6.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   30 mg/dL
   108 mEq/L
   140 mEq/L
   29.0 %
   18.1 K/uL
        [image002.jpg]
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
                            [**2191-8-27**]  02:14 PM
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
                            [**2191-8-28**]  07:04 PM
                            [**2191-8-29**]  01:42 AM
   WBC
   14.3
   16.5
   20.4
   18.1
   Hct
   32.8
   33.1
   35.1
   29.0
   Plt
   [**Telephone/Fax (3) 8685**]31
   Cr
   8.0
   8.6
   5.8
   6.0
   6.5
   TCO2
   18
   17
   22
   21
   21
   Glucose
   392
   504
   301
   233
   81
   Other labs: PT / PTT / INR:15.1/30.6/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:28/54, Alk Phos / T Bili:176/0.8,
   Amylase / Lipase:55/88, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:240 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR - [**8-28**] Mild congestive failure. There are small bilateral
   pleural effusions
   and mild bibasilar atelectasis.
   Microbiology: Sputum [**8-27**] - MRSA - sparse growth
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Hypotension / Fevers/White count: New fever overnight.  Pt was pan
   cultured.  Hypotension as also noted and pt was restarted on levophed
   yesterday and has required levophed off and on.  Were concerned for VAP
   given sputum GS with GPR.  However no growth.
   - on vancomycin / meropenem
   - All Bcx negative/NGTD, sputum + for residual GPCs
   - CXR
   - continue levophed for hypotension, avoid aggressive volume
   - is there an infection somewhere else?  - line infection, sinusitis,
   intrabdominal process --> liver enzymes, amylase/lipase
   # Respiratory Distress: volume overload (resuscitation with anuric
   renal failure); PNA supported by sputum GS significant for GNR and
   GPC;  Barriers to intubation include mental status, fluid overload and
   underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: continue HD
   - pneumonia, completed 10 day course for MRSA pneumonia
   - treating for  VAP (fever in setting of hypotension) - Meropenem day
   3,  - Vancomycin Day 3 (after completion of 10 day course) for GP and
   GN coverage .  Gram stain + GPC in pairs and clusters.
   # Mental status: - CT head showed no worsening of SDH; no sedation for
   further evaluation of mental status, correct electrolyte disturbances,
   treat infection
   # High Bilious Output:  Resolved.  Is able to tolerate TF with clear
   residuals.  Did have h/o Guaic posive output.
   - continue [**Hospital1 **] PPI
   # ESRD:
   - CVVH filter clotted
   - trial of HD today
   - check BPs manually on left arm to correlate to A-line since A-line
   pressures could be affected by clot on right side (?)
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  will not pull out PICC as non-occlusive
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right; axillary A-line, temp line for HD
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-8-29**] 01:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-29 11:09:00 Physician Attending Progress Note
Chief Complaint: Renal failure, respiratory failure, subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues on norepinephrine
   24 Hour Events:
 FEVER - 101.1
F - [**2191-8-28**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2191-8-26**] 08:45 PM
   Vancomycin - [**2191-8-28**] 04:06 PM
   Meropenem - [**2191-8-28**] 08:23 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Insulin - Regular - 5.5 units/hour
   Other ICU medications:
   Fosphenytoin - [**2191-8-29**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-8-29**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 98 (88 - 106) bpm
   BP: 125/57(81) {89/34(52) - 151/59(295)} mmHg
   RR: 33 (20 - 60) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,641 mL
                                                                    985 mL
   PO:
                                                                     60 mL
             TF:
                                                                    793 mL
                                                                    436 mL
   IVF:
                                                                  1,538 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                    762 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,879 mL
                                                                    985 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (361 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more attentive
   today
   Labs / Radiology
   9.3 g/dL
   231 K/uL
   81 mg/dL
   6.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   30 mg/dL
   108 mEq/L
   140 mEq/L
   29.0 %
   18.1 K/uL
        [image002.jpg]
                             [**2191-8-26**]  02:44 AM
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
                            [**2191-8-27**]  02:14 PM
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
                            [**2191-8-28**]  07:04 PM
                            [**2191-8-29**]  01:42 AM
   WBC
   14.3
   16.5
   20.4
   18.1
   Hct
   32.8
   33.1
   35.1
   29.0
   Plt
   [**Telephone/Fax (3) 8685**]31
   Cr
   8.0
   8.6
   5.8
   6.0
   6.5
   TCO2
   18
   17
   22
   21
   21
   Glucose
   392
   504
   301
   233
   81
   Other labs: PT / PTT / INR:15.1/30.6/1.3, CK / CKMB /
   Troponin-T:147/4/0.35, ALT / AST:28/54, Alk Phos / T Bili:176/0.8,
   Amylase / Lipase:55/88, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:240 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Sepsis-
   Cont vanc/[**Last Name (un) **].  Elevated WBC, spiking temps - but mental status
   improved.  Will not add further abx and cont to follow cultures.
   2)Respiratory Failure- Bring down PSV to 5 today
   3)Renal Failure- attempting HD today
   4)Sub-Dural Hematoma/Altered Mental Status- Continue to hold sedation
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   6)PICC line clot: Recheck ultrasound - not done yesterday
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-8-29**] 01:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-08-30 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RUQ u/s - Prelim read - Stable appearance since [**8-24**] with non
   occlusive thrombus in nid axillary vein.
   - HD after CVVH filter clotted
   - Trial of PSV to 5, but was tachypneic.
   - Spiking fevers 101.3 at 4pm [**8-29**], again at 8pm
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-28**] 04:06 PM
   Meropenem - [**2191-8-29**] 09:30 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-29**] 08:30 PM
   Fosphenytoin - [**2191-8-30**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-30**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 88 (86 - 109) bpm
   BP: 114/47(71) {84/40(56) - 151/61(94)} mmHg
   RR: 27 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,154 mL
                                                                    558 mL
   PO:
             TF:
                                                                    970 mL
                                                                    165 mL
   IVF:
                                                                    864 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,154 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (302 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1093**]: 64
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 10.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   256 K/uL
   10.2 g/dL
   152 mg/dL
   5.1 mg/dL
   27 mEq/L
   3.2 mEq/L
   22 mg/dL
   105 mEq/L
   141 mEq/L
   32.2 %
   14.8 K/uL
        [image002.jpg]
                             [**2191-8-26**]  06:10 AM
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
                            [**2191-8-27**]  02:14 PM
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
                            [**2191-8-28**]  07:04 PM
                            [**2191-8-29**]  01:42 AM
                            [**2191-8-29**]  10:57 PM
   WBC
   14.3
   16.5
   20.4
   18.1
   14.8
   Hct
   32.8
   33.1
   35.1
   29.0
   32.2
   Plt
   [**Telephone/Fax (3) 8685**]31
   256
   Cr
   8.0
   8.6
   5.8
   6.0
   6.5
   5.1
   TropT
   0.28
   TCO2
   17
   22
   21
   21
   Glucose
   392
   504
   301
   233
   81
   152
   Other labs: PT / PTT / INR:15.1/30.6/1.3, CK / CKMB /
   Troponin-T:86/2/0.28, ALT / AST:29/75, Alk Phos / T Bili:190/0.4,
   Amylase / Lipase:44/123, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:266 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.7
   mg/dL
   Imaging: RUQ u/s - Prelim read - Stable appearance since [**8-24**] with non
   occlusive thrombus in nid axillary vein.
   CXR -
   Microbiology: [**8-28**] SPUTUM:
   GRAM STAIN (Final [**2191-8-29**]):
   [**9-11**] PMNs and <10 epithelial cells/100X field.
   1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND
   CLUSTERS.
   [**8-28**] BLOOD CX:
   Pending
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Hypotension / Fevers/White count: Continues with fevers, pan cultured
   [**8-28**].  Levophed restarted [**8-28**] yesterday and has required levophed
   off and on, now on.  Were concerned for VAP given sputum GS with GPR.
   However no growth.
   - on vancomycin / meropenem, Meropenem is empiric for GNR
   - All Bcx negative/NGTD, sputum + for residual GPCs
   - CXR
   - continue levophed for hypotension, avoid aggressive volume
   - is there an infection somewhere else?  - line infection, sinusitis,
   intrabdominal process --> liver enzymes, amylase/lipase?
   # Respiratory Distress: volume overload (resuscitation with anuric
   renal failure); PNA supported by sputum GS significant for GNR and
   GPC;  Barriers to extubation include mental status, fluid overload and
   underlying infection.
   - respiratory failure: continue PSV with daily [**Last Name (LF) 1093**], [**First Name3 (LF) 116**] attempt to
   wean once HD re-initiated
   - volume overload: continue HD
   - pneumonia, completed 10 day course for MRSA pneumonia
   - treating for  VAP (fever in setting of hypotension) - Meropenem day
   4,  - Vancomycin Day 4 (after completion of 10 day course) for GP and
   GN coverage .  Gram stain + GPC in pairs and clusters, cultures
   pending.
   # Mental status: - CT head showed no worsening of SDH; no sedation for
   further evaluation of mental status, correct electrolyte disturbances,
   treat infection
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  will not pull out PICC as non-occlusive
   -  repeat RUE u/S: shows same as prior
   # ESRD:
   - HD successful yesterday
   - f/u renal recs re continued HD
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # High Bilious Output:  Resolved.  Is able to tolerate TF with clear
   residuals.  Did have h/o Guaic posive output.
   - continue [**Hospital1 **] PPI
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: continue SSI with lantus baseline
   # Access: double lumen PICC on right; axillary A-line, temp line for HD
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated; may attempt extubation s/p
   HD
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-8-30**] 04:24 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-30 10:28:00 Physician Attending Progress Note
Chief Complaint: Subdural hematoma, Respiratory Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated HD yesterday
   Did not tolerate PSV due to tachypnea yesterday
   24 Hour Events:
 ULTRASOUND - At [**2191-8-29**] 02:00 PM
   RUE US to eval known semi-occlusive thrombis
 FEVER - 101.3
F - [**2191-8-29**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-28**] 04:06 PM
   Meropenem - [**2191-8-29**] 09:30 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Fosphenytoin - [**2191-8-30**] 08:00 AM
   Pantoprazole (Protonix) - [**2191-8-30**] 08:48 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-8-30**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 105 (86 - 109) bpm
   BP: 118/44(73) {84/41(56) - 143/61(90)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,154 mL
                                                                    824 mL
   PO:
             TF:
                                                                    970 mL
                                                                    289 mL
   IVF:
                                                                    864 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,154 mL
                                                                    824 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 402 (302 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more attentive
   today and tracking
   Labs / Radiology
   9.9 g/dL
   236 K/uL
   181 mg/dL
   5.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   26 mg/dL
   103 mEq/L
   141 mEq/L
   31.7 %
   17.4 K/uL
        [image002.jpg]
                            [**2191-8-27**]  03:21 AM
                            [**2191-8-27**]  03:44 AM
                            [**2191-8-27**]  02:14 PM
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
                            [**2191-8-28**]  07:04 PM
                            [**2191-8-29**]  01:42 AM
                            [**2191-8-29**]  10:57 PM
                            [**2191-8-30**]  06:27 AM
   WBC
   14.3
   16.5
   20.4
   18.1
   14.8
   17.4
   Hct
   32.8
   33.1
   35.1
   29.0
   32.2
   31.7
   Plt
   [**Telephone/Fax (3) 8703**]
   Cr
   8.0
   8.6
   5.8
   6.0
   6.5
   5.1
   5.8
   TropT
   0.28
   TCO2
   22
   21
   21
   Glucose
   392
   504
   301
   233
   81
   152
   181
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:90/2/0.28, ALT / AST:29/75, Alk Phos / T Bili:190/0.4,
   Amylase / Lipase:44/123, Differential-Neuts:77.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.6 g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Sepsis-
    Cont vanc/[**Last Name (un) **] - still spiking temps and has elevated WBC.  No new
   culture data. Continues on pressors.  Will get RUQ ultrasound.  Will
   pull PICC line
   2)Respiratory Failure- Currently on PSV - will aim for one more HD
   session and try to move toward extubation.
   3)Renal Failure- further HD per renal
   4)Sub-Dural Hematoma/Altered Mental Status- Mental status improving
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   6)PICC line clot: Stable by prelim read of RUE u/s.  Planning to pull
   PICC
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-8-30**] 04:24 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-8-21**] 02:07 AM
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-08-31 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2191-8-30**] 11:14 AM
   abd CT to search for infection
 PICC LINE - STOP [**2191-8-30**] 04:53 PM
   - Renal recs: concern for SVC syndrome given UE>LE edema, recommend
   MRV, however, not urgent because it won't change management
   - PICC pulled, catheter tip sent for cultures
   - Abdominal u/s done, pending.
   - HD tomorrow, none today
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-28**] 04:06 PM
   Meropenem - [**2191-8-29**] 09:30 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-30**] 08:48 AM
   Fosphenytoin - [**2191-8-31**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-31**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 81 (81 - 105) bpm
   BP: 113/44(68) {76/34(48) - 147/67(98)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,833 mL
                                                                    167 mL
   PO:
             TF:
                                                                    850 mL
                                                                     43 mL
   IVF:
                                                                    713 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,833 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (343 - 449) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.36/49/126/28/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Cardiovascular: Gen: NAD,
   CV: RRR
   Lungs: CTAB
   Abd: mildly distended, non tender
   Neuro: opens eyes to voice, shakes and nods head in response to
   questions.  Squeezes hand.  Will not move LE on command.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   9.1 g/dL
   287 mg/dL
   7.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   40 mg/dL
   102 mEq/L
   138 mEq/L
   30.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
                            [**2191-8-28**]  07:04 PM
                            [**2191-8-29**]  01:42 AM
                            [**2191-8-29**]  10:57 PM
                            [**2191-8-30**]  06:27 AM
                            [**2191-8-30**]  12:45 PM
                            [**2191-8-31**]  03:34 AM
                            [**2191-8-31**]  03:56 AM
   WBC
   16.5
   20.4
   18.1
   14.8
   17.4
   12.7
   Hct
   33.1
   35.1
   29.0
   32.2
   31.7
   30.1
   Plt
   [**Telephone/Fax (2) 8718**]
   Cr
   8.6
   5.8
   6.0
   6.5
   5.1
   5.8
   7.4
   TropT
   0.28
   TCO2
   21
   29
   29
   Glucose
   [**Telephone/Fax (3) 8719**]1
   152
   181
   287
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:44/131, Differential-Neuts:68.0 %, Band:4.0 %,
   Lymph:7.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Imaging: Abd U/S: 1. The patient is status post cholecystectomy. No
   biliary dilatation.
   2. No focal liver lesion.
   3. Complex right renal cyst and simple right renal cyst. Followup of
   right
   renal cyst recommended in 12 months.
   Microbiology: Sputum - minimal growth of staph aureus
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Hypotension / Fevers/White count: Continues with fevers, pan cultured
   [**8-28**].  Levophed restarted [**8-28**] yesterday and has required levophed
   off and on, now on.  Were concerned for VAP given sputum GS with GPR.
   However no growth.
   - on vancomycin / meropenem (day 4), Meropenem is empiric for GNR
   - All Bcx negative/NGTD, sputum + for residual GPCs
   - CXR
   - continue levophed for hypotension, avoid aggressive volume
   # Respiratory Distress: volume overload (resuscitation with anuric
   renal failure); PNA supported by sputum GS significant for GNR and
   GPC;  Barriers to extubation include mental status, fluid overload and
   underlying infection.
   - respiratory failure: SBT today, attempt extubation today
   - volume overload: continue HD
   - pneumonia, completed 10 day course for MRSA pneumonia
   - treating for  VAP (fever in setting of hypotension) - Meropenem day
   4,  - Vancomycin Day 4 (after completion of 10 day course) for GP and
   GN coverage .  Gram stain + GPC in pairs and clusters, cultures
   pending.
   # Mental status: - CT head showed no worsening of SDH; no sedation for
   further evaluation of mental status, correct electrolyte disturbances,
   treat infection
   - appears much improved today
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  will pull out PICC given fevers, unclear source and send tip for
   cultures
   -  repeat RUE u/S: shows same as prior
   # ESRD:
   - HD today
   - f/u renal recs
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # High Bilious Output:  Resolved.  Is able to tolerate TF with clear
   residuals.  Did have h/o Guaic posive output.
   - continue [**Hospital1 **] PPI
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: d/c insulin gtt, restart SSI with lantus baseline
   # Access: double lumen PICC on right; axillary A-line, temp line for HD
   # Nutrition: tolerating TF, on hol dfor potential extubation, speech
   and swallow pending extubation
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   20 Gauge - [**2191-8-30**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-08-31 10:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Subdural hematoma, Septic sjhock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Currently getting HD.
   More awake and interactive
   24 Hour Events:
 ULTRASOUND - At [**2191-8-30**] 11:14 AM
   abd CT to search for infection
 PICC LINE - STOP [**2191-8-30**] 04:53 PM
   History obtained from Medical records, icu team
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-28**] 04:06 PM
   Meropenem - [**2191-8-29**] 09:30 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-31**] 08:00 AM
   Fosphenytoin - [**2191-8-31**] 08:12 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-8-31**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 85 (81 - 105) bpm
   BP: 105/44(82) {76/34(48) - 147/67(98)} mmHg
   RR: 16 (13 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,833 mL
                                                                    240 mL
   PO:
             TF:
                                                                    850 mL
                                                                     43 mL
   IVF:
                                                                    713 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,833 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (343 - 471) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.36/49/126/28/1
   Ve: 10.7 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   251 K/uL
   287 mg/dL
   7.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   40 mg/dL
   102 mEq/L
   138 mEq/L
   30.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2191-8-27**]  02:15 PM
                            [**2191-8-27**]  08:28 PM
                            [**2191-8-28**]  01:43 AM
                            [**2191-8-28**]  07:04 PM
                            [**2191-8-29**]  01:42 AM
                            [**2191-8-29**]  10:57 PM
                            [**2191-8-30**]  06:27 AM
                            [**2191-8-30**]  12:45 PM
                            [**2191-8-31**]  03:34 AM
                            [**2191-8-31**]  03:56 AM
   WBC
   16.5
   20.4
   18.1
   14.8
   17.4
   12.7
   Hct
   33.1
   35.1
   29.0
   32.2
   31.7
   30.1
   Plt
   [**Telephone/Fax (2) 8718**]
   Cr
   8.6
   5.8
   6.0
   6.5
   5.1
   5.8
   7.4
   TropT
   0.28
   TCO2
   21
   29
   29
   Glucose
   [**Telephone/Fax (3) 8719**]1
   152
   181
   287
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:44/131, Differential-Neuts:68.0 %, Band:4.0 %,
   Lymph:7.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Septic shock-
   Fever curve trending down but still with low grade fever. WBC trending
   down.  Cont vanc/[**Last Name (un) **].  Cont to culture with fever spikes.  Check stool
   for c.diff. Cont levophed
   2)Respiratory Failure- SBT after HD session this AM
   3)Renal Failure- HD today
   4)Sub-Dural Hematoma/Altered Mental Status- Mental status continues to
   improve
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   6)PICC line clot: PICC now pulled.  Follow up PICC culture.  Will hold
   off on MRI without contrast - will need to get done at some point.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   20 Gauge - [**2191-8-30**] 03:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-09-01 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2191-8-31**] 10:43 AM
   c. diff
 INVASIVE VENTILATION - STOP [**2191-8-31**] 04:33 PM
 INVASIVE VENTILATION - START [**2191-8-31**] 10:20 PM
   - readjusted sliding scale (cut in half) b/c now NPO after OG tube
   removed following extubation; continued on 40 of lantus standing
   -extubated post HD; was respirating on shovel mask at 35 - 40 / min,
   abdominal breathing persistent, tiring out, respiratory distress, was
   reintubated and repeat ABG was: 124* 58* 7.35
   -Neuro suggested starting EEG given tremors; checking daily dilantin
   levels starting tomorrow AM; also they suggested can repeat head CT for
   prognostic purposes especially if worsening MS
   [**Name13 (STitle) 8736**] status continues to fluctuate: stopped gabapentin as this can
   accumulate w/ renal failure (was taking for neuropathic pain) and
   checked Vit B12, folate, TSH
   - HD line clotted.  No drop in Hct.  Has been only receiving half tx of
   HD given slow flow rate.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2191-8-31**] 08:37 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-31**] 08:00 AM
   Dextrose 50% - [**2191-8-31**] 09:40 PM
   Fosphenytoin - [**2191-9-1**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-1**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 84 (81 - 100) bpm
   BP: 128/49(77) {86/37(53) - 162/64(101)} mmHg
   RR: 22 (12 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    545 mL
                                                                    239 mL
   PO:
             TF:
                                                                     43 mL
                                                                     48 mL
   IVF:
                                                                    363 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,855 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 486 (471 - 486) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/47/98.[**Numeric Identifier 500**]/31/5
   Ve: 9.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: NAD, intubated, sedated
   Neck: Pustular fluid from RIJ
   CV:  RRR. Nl S1 and S2
   Lungs: CTAB
   Abd: soft ND NT ABS
   Ext: no c/c/e
   Neuro: responds to commands, can squeeze left hand.  Lifts right leg
   off of bed against gravity.  Attempts to lift left leg up.  No movement
   of RUE.  Nods and shakes head in response to questions.
   Labs / Radiology
   185 K/uL
   9.3 g/dL
   77 mg/dL
   6.0 mg/dL
   31 mEq/L
   3.2 mEq/L
   25 mg/dL
   104 mEq/L
   141 mEq/L
   29.4 %
   10.4 K/uL
        [image002.jpg]
                            [**2191-8-31**]  03:56 AM
                            [**2191-8-31**]  02:20 PM
                            [**2191-8-31**]  05:59 PM
                            [**2191-8-31**]  09:34 PM
                            [**2191-8-31**]  10:00 PM
                            [**2191-9-1**]  12:00 AM
                            [**2191-9-1**]  01:00 AM
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
   WBC
   10.4
   Hct
   29.8
   29.4
   Plt
   185
   Cr
   6.0
   TCO2
   29
   34
   33
   32
   Glucose
   50
   147
   95
   88
   88
   75
   77
   Other labs: Amylase / Lipase:41/64, Albumin:2.5 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Phenytoin = 2.6
   Imaging: CXR - low lung volumes, appears well
   Microbiology: Sputum - [**8-28**] -  STAPH AUREUS COAG +.
   Sputum GS [**8-30**] - Gram positve cocci in pairs and clusters
   Catheter tip - no significant growth
   Cdiff - negative
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Hypotension / Fevers/White count: Continues with fevers, pan cultured
   [**8-30**].  Levophed on and off for labile BP.
   - on vancomycin / meropenem (day 6), Meropenem is empiric for GNR
   - All Bcx negative/NGTD, sputum + for minimal Staph aureus
   - do not d/c line given lack of access for pressors.  Anatomy is poor
   and new line will likely be difficult, continue tx w/ vancomycin
   - Start midodrine to wean levophed
   - ? central etiology of fever/autonomic dysfunction  such as seizure
   - daily surveillance cultures.
   # Respiratory Distress: volume overload (resuscitation with anuric
   renal failure); PNA supported by sputum positive for minimal Staph
   aureus.  CXR cleared, mental status improved.  Attempted trial of
   extubation.  Pt failed and is reintubated.    Per his lack of
   significant growth in sputum, appears more euvolemic on exam (despite
   3.5 L + LOS), and clarity of chest Xray, would not expect pt to have
   this degree of respiratory failure.  Pt may not be strong enough to
   ventilate on his own.
   - respiratory failure: pt likely will require trach, and long term
   ventilation
   - volume overload: continue HD
   - pneumonia, completed 10 day course for MRSA pneumonia
   - treating for  VAP (fever in setting of hypotension) - Meropenem day
   6,  - Vancomycin Day 6 (after completion of 10 day course) for GP and
   GN coverage .  Gram stain + GPC in pairs and clusters, cultures
   pending.
   #Scrotal and buttock lesions
 most likely dependent skin ulcers,
   however given location
   - check RPR
   - continue wound care
   # Mental status: - CT head showed no worsening of SDH; no sedation for
   further evaluation of mental status, correct electrolyte disturbances,
   treat infection
   - appears much improved today
   - Vit B12, folate, TSH all normal
   # Seizure: no gross evidence of ongoing seizure activity
   - c/w neuro regarding fosphenytoin dosing considering possible HD
   - f/u EEG
   - most recent CT scan showed stabilization of SDH
   # Right Upper Extremity Swelling: u/s shows non occlusive clot
   -  will pull out PICC given fevers, unclear source and send tip for
   cultures
   -  repeat RUE u/S: shows same as prior
   - will need to do MRV eventually
   # ESRD:
   - HD line clotted again yesterday.  Address placement of a new line.
   - [**Month (only) 11**] need MRV first, will d/w Renal
   - f/u renal recs
   - address goals of care
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # High Bilious Output:  Resolved.  Is able to tolerate TF with clear
   residuals.  Did have h/o Guaic posive output.
   - continue [**Hospital1 **] PPI
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # R renal cyst
 one complex cyst and one simple cyst on right kidney.
   Radiology rec 12 month follow up.
   - possible malignancy
   - possible abscess seems unlikely
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: d/c insulin gtt, restart SSI with lantus baseline
   # Access: axillary A-line, temp line for HD (infected)
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-1**] 02:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   20 Gauge - [**2191-9-1**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-09-01 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, renal failure, subdural hematoma
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Extubated yesterday, but had to be reintubated yesterday evening due to
   increased work of breathing, inability to clear secretions
   24 Hour Events:
 STOOL CULTURE - At [**2191-8-31**] 10:43 AM
   c. diff
 INVASIVE VENTILATION - STOP [**2191-8-31**] 04:33 PM
 INVASIVE VENTILATION - START [**2191-8-31**] 10:20 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2191-8-31**] 08:37 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2191-8-31**] 09:40 PM
   Fosphenytoin - [**2191-9-1**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-9-1**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 92 (81 - 100) bpm
   BP: 127/49(78) {86/37(53) - 155/63(96)} mmHg
   RR: 15 (12 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    545 mL
                                                                    436 mL
   PO:
             TF:
                                                                     43 mL
                                                                    135 mL
   IVF:
                                                                    363 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,855 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 486 (486 - 486) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.43/47/98.[**Numeric Identifier 500**]/31/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, follow some commands,
   somnolent
   Labs / Radiology
   9.3 g/dL
   185 K/uL
   77 mg/dL
   6.0 mg/dL
   31 mEq/L
   3.2 mEq/L
   25 mg/dL
   104 mEq/L
   141 mEq/L
   29.4 %
   10.4 K/uL
        [image002.jpg]
                            [**2191-8-31**]  03:56 AM
                            [**2191-8-31**]  02:20 PM
                            [**2191-8-31**]  05:59 PM
                            [**2191-8-31**]  09:34 PM
                            [**2191-8-31**]  10:00 PM
                            [**2191-9-1**]  12:00 AM
                            [**2191-9-1**]  01:00 AM
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
   WBC
   10.4
   Hct
   29.8
   29.4
   Plt
   185
   Cr
   6.0
   TCO2
   29
   34
   33
   32
   Glucose
   50
   147
   95
   88
   88
   75
   77
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:68.0 %, Band:4.0 %,
   Lymph:7.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Septic shock-
   Ongoing low grade fevers.  WBC trending down.  Cont vanc/[**Last Name (un) **].  Ongoing
   pressor requirement.  He has purulent discharge from HD line - access
   is a major issue at the moment.  His HD line VIP port is his only
   central access for pressors.  All other potential line insertion sites
   are suboptimal (fistula on L, clot on R, femorals) - will treat through
   today, start midodrine and hope BP improves as he moves away from last
   dialysis session, with goal of [**Last Name (un) 7192**] line tomorrow and establishing
   line holiday.  MRV for purpose of mapping out access sites
   2)Respiratory Failure- Failed extubation yesterday.  Mental status slow
   to clear - probably heading toward a trach, will d/w family
   3)Renal Failure- HD as above.
   4)Sub-Dural Hematoma/Altered Mental Status- Waxing and [**Doctor Last Name 282**] MS not
   great progressive improvement
   5)Seizure Disorder-
   -Neurontin
   -Dilantin
   6)PICC line clot: PICC line removed
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-1**] 02:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   20 Gauge - [**2191-9-1**] 12:25 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2191-09-02 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bolused IV phenytoin 300mg and check free dilantin in AM
   - Pt started on midodrine
   - MRV - narrowing of R Subclav and R Brachiocephalic.  Narrowing of L
   subclavian and L IJ.  Patent SVC and RIJ.  Enlarged mediastinal LN
   unchanged from prior.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2191-9-1**] 08:07 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2191-9-1**] 10:00 PM
   Fentanyl - [**2191-9-2**] 12:24 AM
   Fosphenytoin - [**2191-9-2**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-2**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.8
   HR: 85 (81 - 93) bpm
   BP: 131/48(79) {96/40(59) - 149/61(94)} mmHg
   RR: 77 (13 - 77) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    945 mL
                                                                    295 mL
   PO:
             TF:
                                                                    390 mL
                                                                    210 mL
   IVF:
                                                                    375 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 233 (233 - 233) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   9.0 g/dL
   183 mg/dL
   7.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   31 mg/dL
   104 mEq/L
   141 mEq/L
   28.4 %
   10.0 K/uL
        [image002.jpg]
                            [**2191-8-31**]  05:59 PM
                            [**2191-8-31**]  09:34 PM
                            [**2191-8-31**]  10:00 PM
                            [**2191-9-1**]  12:00 AM
                            [**2191-9-1**]  01:00 AM
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
   WBC
   10.4
   10.0
   Hct
   29.4
   28.4
   Plt
   185
   234
   Cr
   6.0
   7.4
   7.7
   TCO2
   34
   33
   32
   Glucose
   50
   147
   95
   88
   88
   75
   77
   135
   183
   Other labs: PT / PTT / INR:14.4/25.4/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:68.0 %, Band:4.0 %,
   Lymph:7.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: RPR negative
   Imaging: - MRV: narrowing of R Subclav and R Brachiocephalic.
   Narrowing of L subclavian and L IJ.  Patent SVC and RIJ.  Enlarged
   mediastinal LN unchanged from prior.
   Microbiology: [**8-30**] SPUTUM
   -GRAM STAIN: 1+ GRAM POSITIVE COCCI.  IN PAIRS AND CLUSTERS.
   -RESPIRATORY CULTURE (Preliminary):  STAPH AUREUS COAG +. SPARSE
   GROWTH.
   [**8-30**] CATHETER TIP: No significant growth.
   Stool: C. diff negative
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Hypotension / Fevers/White count: Continues with fevers, pan cultured
   [**8-30**].  Levophed on and off for labile BP.
   - on vancomycin / meropenem (day 7), Meropenem is empiric for GNR
   - All Bcx negative/NGTD, sputum + for minimal Staph aureus
   - do not d/c line given lack of access for pressors, catheter tip
   culture negative.  Anatomy is poor and new line will likely be
   difficult, continue tx w/ vancomycin
   - Start midodrine to wean levophed
   - ? central etiology of fever/autonomic dysfunction such as seizure
   - daily surveillance cultures.
   # Respiratory Distress: volume overload (resuscitation with anuric
   renal failure); PNA supported by sputum positive for minimal Staph
   aureus.  CXR cleared, mental status improved.  Attempted trial of
   extubation.  Pt failed and is reintubated.    Per his lack of
   significant growth in sputum, appears more euvolemic on exam (despite
   3.5 L + LOS), and clarity of chest Xray, would not expect pt to have
   this degree of respiratory failure.  Pt may not be strong enough to
   ventilate on his own.
   - respiratory failure: pt likely will require trach, and long term
   ventilation
   - volume overload: continue HD
   - pneumonia, completed 10 day course for MRSA pneumonia
   - treating for  VAP (fever in setting of hypotension) - Meropenem day
   7,  - Vancomycin Day 7 (after completion of 10 day course) for GP and
   GN coverage .
   #Scrotal and buttock lesions
 most likely dependent skin ulcers, RPR
   negative
   - continue wound care
   # Mental status: - CT head showed no worsening of SDH; no sedation for
   further evaluation of mental status, correct electrolyte disturbances,
   treat infection
   - appears much improved today
   - Vit B12, folate, TSH all normal
   # Seizure: no gross evidence of ongoing seizure activity
   - Bolused IV phenytoin 300mg and check free dilantin in AM
   - f/u EEG
   - most recent CT scan showed stabilization of SDH
   # Right Upper Extremity Swelling: u/s shows non occlusive clot, MRV
   shows narrowing of R Subclav and R Brachiocephalic.  Narrowing of L
   subclavian and L IJ.  Patent SVC and RIJ.  Enlarged mediastinal LN
   unchanged from prior. PICC tip cultures negative. Likely [**12-20**] clot.
   -continue to monitor
   # ESRD:
   - HD line clotting with HD, only central access, needs a new line
   - f/u renal recs
   - address goals of care
   # AF: patient in NSR.  Continue to hold anti-coagulation for underlying
   SDH
   # High Bilious Output:  Resolved.  Is able to tolerate TF with clear
   residuals.  Did have h/o Guaic posive output.
   - continue [**Hospital1 **] PPI
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # R renal cyst
 one complex cyst and one simple cyst on right kidney.
   Radiology rec 12 month follow up.
   - possible malignancy
   - possible abscess seems unlikely
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: d/c insulin gtt, restart SSI with lantus baseline
   # Access: axillary A-line, temp line for HD (infected)
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   - Family Meeting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   20 Gauge - [**2191-9-1**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-02 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Delirium, subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on midodrine yesterday
   Getting HD this AM
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2191-9-1**] 03:54 PM
   MRV to eval for SVC syndrome - no SVC occlusion but extensive narrowing
   through neck veins - L IJ, L SC, R SC, R brachiocephalic
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2191-9-1**] 08:07 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2191-9-1**] 10:00 PM
   Fentanyl - [**2191-9-2**] 12:24 AM
   Fosphenytoin - [**2191-9-2**] 12:35 AM
   Insulin - Regular - [**2191-9-2**] 06:27 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-9-2**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 86 (81 - 93) bpm
   BP: 103/39(57) {86/34(51) - 153/61(94)} mmHg
   RR: 18 (13 - 77) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    945 mL
                                                                    823 mL
   PO:
             TF:
                                                                    390 mL
                                                                    435 mL
   IVF:
                                                                    375 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                    823 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 233 (233 - 233) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   234 K/uL
   183 mg/dL
   7.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   31 mg/dL
   104 mEq/L
   141 mEq/L
   28.4 %
   10.0 K/uL
        [image002.jpg]
                            [**2191-8-31**]  05:59 PM
                            [**2191-8-31**]  09:34 PM
                            [**2191-8-31**]  10:00 PM
                            [**2191-9-1**]  12:00 AM
                            [**2191-9-1**]  01:00 AM
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
   WBC
   10.4
   10.0
   Hct
   29.4
   28.4
   Plt
   185
   234
   Cr
   6.0
   7.4
   7.7
   TCO2
   34
   33
   32
   Glucose
   50
   147
   95
   88
   88
   75
   77
   135
   183
   Other labs: PT / PTT / INR:14.4/25.4/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:68.0 %, Band:4.0 %,
   Lymph:7.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently who now has persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Septic shock-
   Still having low grade fevers and pressor requirment.  Cont vanc/[**Last Name (un) **].
   Ongoing pressor requirement.  Unfortunately, ongoing pressor need along
   with extremely limited access sites make line holiday difficult to
   achieve.  Have added midodrine and will try to wean pressors after HD.
   2)Respiratory Failure- Mental status better today.  [**Month (only) 11**] be able to try
   one more attempt to extubate over weekend if mental status continues to
   improve - but trch remains a distinct possibility if his family agrees
   based on goals of care
   3)Renal Failure- HD today
   4)Sub-Dural Hematoma/Altered Mental Status- Mental status today better
   thanb
   5)Seizure Disorder- Neurontin, Dilantin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-2**] 10:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   20 Gauge - [**2191-9-1**] 12:25 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-09-03 08:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recs: fosphenytoin 200mg TID, check daily levels, q3-4d check
   free level (doesn't need to be daily)
   - Midodrine increased to 15mg TID
   - Family informed of possibility of trach/peg
   - HSV DFA sample done from sacral wound
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2191-9-1**] 08:07 PM
   Vancomycin - [**2191-9-2**] 01:45 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2191-9-2**] 04:32 PM
   Fentanyl - [**2191-9-2**] 06:20 PM
   Midazolam (Versed) - [**2191-9-3**] 03:50 AM
   Fosphenytoin - [**2191-9-3**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-3**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 84 (81 - 98) bpm
   BP: 142/49(84) {71/30(42) - 180/71(106)} mmHg
   RR: 20 (13 - 51) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,867 mL
                                                                    504 mL
   PO:
             TF:
                                                                    966 mL
                                                                    323 mL
   IVF:
                                                                    531 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,133 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/45/129/30/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   9.5 g/dL
   116 mg/dL
   5.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   22 mg/dL
   100 mEq/L
   141 mEq/L
   30.2 %
   8.6 K/uL
        [image002.jpg]
                            [**2191-8-31**]  10:00 PM
                            [**2191-9-1**]  12:00 AM
                            [**2191-9-1**]  01:00 AM
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
   WBC
   10.4
   10.0
   8.6
   Hct
   29.4
   28.4
   30.2
   Plt
   185
   234
   196
   Cr
   6.0
   7.4
   7.7
   5.7
   TCO2
   32
   31
   Glucose
   147
   95
   88
   88
   75
   77
   135
   183
   116
   Other labs: PT / PTT / INR:14.4/26.8/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:68.0 %, Band:4.0 %,
   Lymph:7.0 %, Mono:8.0 %, Eos:8.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Imaging: EEG - negative
   [**9-2**]: CXR
   FINDINGS: The position of the ET tube is unchanged with the tip at the
   thoracic inlet 3 cm above the carina, the right venous line and NG tube
   are
   unchanged.
   Median sternotomy wires are intact.
   Left lateral lower lobe atelectasis is stable. No new consolidation,
   pneumothorax or pleural effusion. Cardiomediastinal silhouette is
   unchanged.
   MRV:
   1. Narrowing of the right subclavian as well as right brachiocephalic
   veins
   as described above.
   2. Narrowing of the left subclavian as well as left internal jugular
   vein.
   3. Widely patent SVC and the right-sided internal jugular line ends in
   the
   distal SVC. Linear filling defect in the left internal jugular vein is
   suggestive of a fibrin sheath from prior catheterization.
   4. Enlarged mediastinal lymph nodes, some of which are unchanged from
   prior
   CT and of uncertain significance. Assessment by chest CT could be
   obtained as
   per clinical need.
   Microbiology: [**8-30**]: growing MRSA in sputum
   line cx - NGTD
   Assessment and Plan
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Sepsis: Continues with fevers concerning for VAP with sputum + for
   minimal Staph aureus ([**8-30**]) also gross pus from R HD line could be
   source. On day 8  vancomycin, pan cultured [**8-30**].  Requires continued
   pressure support w levophed.  Midodrine started to wean pressors, but
   unchanged levo demand. All Bcx negative to todate,
   - Continue midodrine and reduce levophed as tolerated
   -Can try adding florinef for further BP support
   - f/u cultures
   -keep MAP > 65
   -continue vancomycin given recent positive cx for MRSA to complete 10 d
   course
   # Respiratory Distress: likely secondary to PNA vs pulmonary edema.
   Attempted trial of extubation 2d ago, pt failed and is reintubated.
   - attempt switch to pressure support today; consider possibility of
   trach placement for long term ventilation
   - continue HD for volume overload
   - on day 8 of vanc for pneumonia, s/p 10d tx for MRSA pna
   #Scrotal and buttock lesions
 most likely dependent skin ulcers
   - Herpes DFA
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: Bolused IV phenytoin 300mg and f/u dilantin level in AM
   - touch base re: anti-seizure regimen given -EEG
   # ESRD:
   - may go for HD today, f/u with renal
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: On SSI + lantus 40 daily; sugars well controlled 100-200
   # Access: axillary A-line, temp line for HD (infected); weaning
   pressors in attempt to pull HD line
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   -update family
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-9-3**] 01:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   22 Gauge - [**2191-9-3**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-04 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-9-3**] 10:00 PM
   1st of 2 blood cultures
 BLOOD CULTURED - At [**2191-9-4**] 12:30 AM
   2nd of 2 blood cultures
   -phenytoin level was 3.4 this AM; free phenyotin/phenytoin level was
   checked this PM prior to afternoon dose; given low total phenytoin, he
   got 300 mg IV X 1 of phenytoin this evening at 8 PM in addition to his
   usual TID phenytoin
   -starting fluorinef for pressure support
   -changed ventilator settings to PSV and repeat blood gas was 7.4  47
   127
   -attempted to pull off pressors... No overnight pressor requirement.
   -renal recs: next HD will be on Monday; would use free phenytoin as a
   guide to dose (2.7 - 3 per neurology)
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2191-9-1**] 08:07 PM
   Vancomycin - [**2191-9-2**] 01:45 PM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-9-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-4**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.5
C (99.5
   HR: 84 (74 - 99) bpm
   BP: 139/53(85) {84/29(49) - 171/64(104)} mmHg
   RR: 20 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,390 mL
                                                                    326 mL
   PO:
             TF:
                                                                    959 mL
                                                                    273 mL
   IVF:
                                                                     51 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,390 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 271 (262 - 783) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/47/127/27/4
   Ve: 10.8 L/min
   PaO2 / FiO2: 254
   Physical Examination
   Cardiovascular: Gen: NAD, sedated, intubated
   CV: RRR, nl S1 and S2
   Lungs: clear anteriorly
   Abd: soft, NT, ND, ABS
   Ext: no c/c/e
   Neuro: [**Last Name (LF) 2340**], [**First Name3 (LF) **], opens eyes
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   8.8 g/dL
   155 mg/dL
   8.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   37 mg/dL
   100 mEq/L
   139 mEq/L
   27.7 %
   8.6 K/uL
        [image002.jpg]
                            [**2191-9-1**]  01:00 AM
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
   WBC
   10.4
   10.0
   8.6
   8.6
   Hct
   29.4
   28.4
   30.2
   27.7
   Plt
   185
   234
   196
   241
   Cr
   6.0
   7.4
   7.7
   5.7
   8.0
   TCO2
   32
   31
   31
   Glucose
   88
   88
   75
   77
   135
   183
   116
   155
   Other labs: PT / PTT / INR:14.4/26.8/1.2, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Phenytoin 6.8
   Imaging: CXR: low lung volumes, no opacities,
   Microbiology: [**8-30**] - sputum pos MRSA
   PICC catheter tip - no growth
   Blood, stool, RPR - negative
   HSV pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Sepsis: Continues with fevers concerning for VAP with sputum + for
   minimal Staph aureus ([**8-30**]) also gross pus from R HD line could be
   source. On day 8  vancomycin, pan cultured [**8-30**].  Off pressors
   overnight with addition of midodren and florinef.
   - Continue midodrine and reduce levophed as tolerated
   -Can try adding florinef for further BP support
   -keep MAP > 65
   -continue vancomycin given recent positive cx for MRSA to complete 10 d
   course
   # Respiratory Distress: likely secondary to PNA vs pulmonary edema.
   Attempted trial of extubation 2d ago, pt failed and is reintubated.
   - attempt switch to pressure support today; consider possibility of
   trach placement for long term ventilation
   - continue HD for volume overload
   - on day 8 of vanc for pneumonia, s/p 10d tx for MRSA pna
   - repeat sputum cx
   #Scrotal and buttock lesions
 most likely dependent skin ulcers
   - Herpes DFA
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: Bolused IV phenytoin 300mg and f/u dilantin level in AM
   - touch base re: anti-seizure regimen given -EEG
   # ESRD:
   - HD on monday
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: On SSI + lantus 40 daily; sugars well controlled 100-200
   # Access: axillary A-line, temp line for HD (infected); weaning
   pressors in attempt to pull HD line
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   -update family
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-9-4**] 02:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   22 Gauge - [**2191-9-3**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-05 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-9-4**] 09:57 PM
   C&S drawn/sent from RUE & RSC HD side ports.
 SPUTUM CULTURE - At [**2191-9-4**] 09:58 PM
 FEVER - 102.4
F - [**2191-9-5**] 01:00 AM
   - Off pressors for most of the day, restarted briefly for BP in 80s.
   - Spiked temp to 101.3  Blood and urine cultured
   - Continued to have hiccoughs.
   - Contact[**Name (NI) **] IR re: placing a temp line.  NPO after MN for placement of
   femoral temp line with side port for access.  Infected HD line should
   be pulled afterward.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-2**] 01:45 PM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-9-5**] 02:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-5**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.9
C (100.3
   HR: 80 (76 - 95) bpm
   BP: 109/40(65) {92/32(54) - 167/66(105)} mmHg
   RR: 26 (20 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
    CO/CI (Fick): (6.1 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  1,203 mL
                                                                    284 mL
   PO:
   TF:
                                                                  1,072 mL
                                                                    121 mL
   IVF:
                                                                      6 mL
                                                                     14 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,203 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (255 - 637) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 167
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 8 L/min
   Physical Examination
   Cardiovascular: GEN: nad
   cv: RRR
   Lungs: CTAB anteriorly
   Ext: RUE edema
   Neuro: eyes open, does not respond to commands.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   8.6 g/dL
   114 mg/dL
   9.9 mg/dL
   24 mEq/L
   5.1 mEq/L
   49 mg/dL
   101 mEq/L
   138 mEq/L
   26.7 %
   9.6 K/uL
        [image002.jpg]
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
   WBC
   10.4
   10.0
   8.6
   8.6
   9.6
   Hct
   29.4
   28.4
   30.2
   27.7
   26.7
   Plt
   185
   234
   196
   241
   280
   Cr
   6.0
   7.4
   7.7
   5.7
   8.0
   9.9
   TCO2
   32
   31
   31
   Glucose
   88
   75
   77
   135
   183
   116
   155
   114
   Other labs: PT / PTT / INR:14.0/25.4/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:7.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Vanco
   Imaging: CXR - no parenchymal process.
   Microbiology: Sputum [**9-4**] - gram stain GPCs in pairs and clusters
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
   # Sepsis: Continues with fevers most likely source is line infection.
   On day 9  vancomycin.  On and off pressors overnight with addition of
   midodren and florinef.    More likely due to abnormal autonomic
   dysfunction [**12-20**] to renal failure, but ddx includes infectious etiology
   given recent h/o sepsis.
   - Continue midodrine and florinef and reduce levophed as tolerated
   -keep MAP > 65
   -continue vancomycin given skin infection.
   - now febrile, may be bacteremic, surveillance cultures
   - d/c line in RIJ after placement of temporary femoral line
   - touch base with renal regarding posponing dialysis until new line
   placement
   # Respiratory Distress: Problem of inability to maintain secretions,
   based on failure of attempted trial of extubation.
   - On pressure support [**3-22**].  attempt extubation after d/w family re:
   reintubation and trach placement for long term ventilation
   - continue HD for volume overload
   - f/u sputum cx
   #Scrotal and buttock lesions
 most likely dependent skin ulcers
   - Herpes DFA - pending
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: Bolused IV phenytoin 300mg and f/u dilantin level in AM
   - touch base re: anti-seizure regimen given -EEG
   # ESRD:
   - HD on monday
   - femoral temp line placement today
   - d/c of infected HD line
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops
   # DM: On SSI + lantus 40 daily; sugars well controlled 100-200
   # Access: axillary A-line, temp line for HD (infected); weaning
   pressors in attempt to pull HD line
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   -update family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   22 Gauge - [**2191-9-3**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-05 10:51:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, Respiratory Failure, subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   In IR this AM to get R IJ HD line pulled and new line placed in femoral
   vein
   Still on low dose of levophed
   24 Hour Events:
 BLOOD CULTURED - At [**2191-9-4**] 09:57 PM
   C&S drawn/sent from RUE & RSC HD side ports.
 SPUTUM CULTURE - At [**2191-9-4**] 09:58 PM
 FEVER - 102.4
F - [**2191-9-5**] 01:00 AM
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-2**] 01:45 PM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-9-5**] 02:07 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-9-5**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.4
C (99.3
   HR: 91 (76 - 95) bpm
   BP: 137/55(86) {92/32(54) - 150/55(89)} mmHg
   RR: 26 (20 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
   CO/CI (Fick): (6.1 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  1,203 mL
                                                                    290 mL
   PO:
   TF:
                                                                  1,072 mL
                                                                    121 mL
   IVF:
                                                                      6 mL
                                                                     19 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,203 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (255 - 532) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 167
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: none, Left lower extremity
   edema: Trace, R arm swelling
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   280 K/uL
   114 mg/dL
   9.9 mg/dL
   24 mEq/L
   5.1 mEq/L
   49 mg/dL
   101 mEq/L
   138 mEq/L
   26.7 %
   9.6 K/uL
        [image002.jpg]
                            [**2191-9-1**]  02:00 AM
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
   WBC
   10.4
   10.0
   8.6
   8.6
   9.6
   Hct
   29.4
   28.4
   30.2
   27.7
   26.7
   Plt
   185
   234
   196
   241
   280
   Cr
   6.0
   7.4
   7.7
   5.7
   8.0
   9.9
   TCO2
   32
   31
   31
   Glucose
   88
   75
   77
   135
   183
   116
   155
   114
   Other labs: PT / PTT / INR:14.0/25.4/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:7.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently - now with persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Septic shock-
   Continues to have low grade fevers and low dose pressor requirment.
   Cont vanc for MRSA in sputum.  Cont midodrine.  Getting R IJ line
   pulled today and replaced with femoral HD line
   2)Respiratory Failure- Mental status has plateaued - pt dooing well on
   PSV 5/5.  Need to establish reintubation plan with family prior to
   proceeding with extubation - likely tomorrow given IR
   procedure/sedation today.  Need to establish if they would want to
   proceed with trach if he fails extubation.
   3)Renal Failure- next HD this afternoon per renal
   4)Sub-Dural Hematoma/Altered Mental Status- Improved mental status from
   last week but has plateued somewhat
   5)Seizure Disorder- Neurontin, Dilantin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-8-22**] 04:10 PM
   Arterial Line - [**2191-8-23**] 11:58 AM
   22 Gauge - [**2191-9-3**] 03:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2191-09-06 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2191-9-5**] 10:30 AM
 DIALYSIS CATHETER - STOP [**2191-9-5**] 11:00 AM
   sideport
 ARTERIAL LINE - STOP [**2191-9-6**] 05:05 AM
   - renal recs: zosyn after HD today
   - temporary R femoral line placed in IR
   - Wife is concerned pt is not getting his enough fiber in diet
   requesting nutirition consult, also ask if can add probiotics from
   home, also with h/o recent eye surgery that has been monitored qwk for
   adjustment, consider opthomology c/s
   - Wife aware that next step is extubation and if fails, then trach
   - unable to tolerate fully weaning levo
   - ECHO this AM
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-9-5**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-6**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 76 (73 - 96) bpm
   BP: 168/65(80) {138/47(70) - 168/65(80)} mmHg
   RR: 23 (0 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    853 mL
                                                                    423 mL
   PO:
             TF:
                                                                    380 mL
                                                                    316 mL
   IVF:
                                                                    188 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 250 (250 - 532) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 10.4 L/min
   Physical Examination
   Cardiovascular: Gen: NAD, opens eyes
   CV: RRR
   Lungs: CTAB
   Abd: ND NT ABS
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.0 g/dL
   300 mg/dL
   6.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   24 mg/dL
   100 mEq/L
   141 mEq/L
   28.4 %
   7.7 K/uL
        [image002.jpg]
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
   WBC
   10.4
   10.0
   8.6
   8.6
   9.6
   7.7
   Hct
   29.4
   28.4
   30.2
   27.7
   26.7
   28.4
   Plt
   185
   234
   196
   241
   280
   220
   Cr
   6.0
   7.4
   7.7
   5.7
   8.0
   9.9
   6.0
   TCO2
   32
   31
   31
   Glucose
   75
   77
   135
   183
   116
   155
   114
   300
   Other labs: PT / PTT / INR:13.3/24.6/1.1, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:7.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
    # Sepsis: Continues with fevers most likely source is line infection.
   On  vancomycin.  On and off pressors despite addition of midodrine and
   florinef.   More likely due to abnormal autonomic dysfunction [**12-20**] to
   renal failure, but ddx includes infectious etiology given recent h/o
   sepsis.
   - Continue midodrine and florinef and reduce levophed as tolerated
   -keep MAP > 65
   -continue vancomycin given skin infection.
   - CIS
   - CT torso to evaluate for infection
   # Respiratory Distress: Problem of inability to maintain secretions,
   based on failure of attempted trial of extubation.   VS direct Trach
   placement
   - On pressure support [**3-22**].  SBT and attempt extubation today.
   - continue HD for volume overload
   - f/u sputum cx
   #Scrotal and buttock lesions
 most likely dependent skin ulcers
   - Herpes DFA - negative
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: continue on fosphenytoin, q4d free phenytoin level
   checks.
   - touch base re: anti-seizure regimen given
   - EEG
   # ESRD:
   - cont HD w/ femoral temp line
   - replace RIJ HD line when infection heals.
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops.  Call optho re: eval.
   # DM: On SSI + lantus 40 daily; sugars well controlled 100-200
   # Access: axillary A-line, femoral line
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   -update family
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-9-5**] 06:15 PM 45.[**Telephone/Fax (5) 8810**] mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2191-9-3**] 03:00 AM
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-06 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Subdural hematoma, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had femoral HD line placed yesterday and HD in the afternoon
   24 Hour Events:
 DIALYSIS CATHETER - START [**2191-9-5**] 10:30 AM
 DIALYSIS CATHETER - STOP [**2191-9-5**] 11:00 AM
   sideport
 ARTERIAL LINE - STOP [**2191-9-6**] 05:05 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2191-9-6**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-9-6**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.6
   HR: 82 (73 - 96) bpm
   BP: 112/69(80) {112/15(34) - 168/69(80)} mmHg
   RR: 14 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    853 mL
                                                                    638 mL
   PO:
             TF:
                                                                    380 mL
                                                                    485 mL
   IVF:
                                                                    188 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (250 - 418) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, following some
   commands but still confused
   Labs / Radiology
   9.0 g/dL
   220 K/uL
   300 mg/dL
   6.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   24 mg/dL
   100 mEq/L
   141 mEq/L
   28.4 %
   7.7 K/uL
        [image002.jpg]
                            [**2191-9-1**]  03:38 AM
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
   WBC
   10.4
   10.0
   8.6
   8.6
   9.6
   7.7
   Hct
   29.4
   28.4
   30.2
   27.7
   26.7
   28.4
   Plt
   185
   234
   196
   241
   280
   220
   Cr
   6.0
   7.4
   7.7
   5.7
   8.0
   9.9
   6.0
   TCO2
   32
   31
   31
   Glucose
   75
   77
   135
   183
   116
   155
   114
   300
   Other labs: PT / PTT / INR:13.3/24.6/1.1, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:7.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently - now with persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Septic shock-
   Ongoing fevers and intermittent pressor requirement.  Cont vanc for
   MRSA in sputum.  Cont midodrine.  Femoral HD line.  CT torso for
   ongoing fevers
   2)Respiratory Failure- Given ongoing lack of improvement in mental
   status and ongoing secretions will consult IP for trach and PEG.
   3)Renal Failure- next HD per renal
   4)Sub-Dural Hematoma/Altered Mental Status- Awake but still not fully
   interactive
   5)Seizure Disorder- Neurontin, Dilantin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-9-5**] 06:15 PM 45.[**Telephone/Fax (5) 8810**] mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2191-9-3**] 03:00 AM
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-09-07 08:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -IP consulted for trach/PEG placement; they will place him tomorrow; is
   NPO after midnight and will receive ddAVP 30 min prior to procedure
   given low platelets
   -optho consulted:  felt that no acute management was necessary, that if
   his hospital course is only days more, then he could see an optho as
   outpatient.  If going to have continued prolonged hospital course, can
   consult optho formally.
   -CT abd/pelvis: lumbar spine at level of L2-L4 suggestive of
   osteomyelitis, although findings are nonspecific, MRI lumbar obtained
   tonight for further evaluation; final read of CT is still pending
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-9-6**] 10:00 PM
   Fentanyl - [**2191-9-6**] 10:00 PM
   Fosphenytoin - [**2191-9-7**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-7**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.1
C (100.5
   HR: 79 (76 - 93) bpm
   BP: 104/34(49) {57/17(34) - 193/96(122)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,164 mL
                                                                     50 mL
   PO:
             TF:
                                                                    948 mL
                                                                      2 mL
   IVF:
                                                                    186 mL
                                                                     47 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,164 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 301 (301 - 475) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 210
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   9.2 g/dL
   66 mg/dL
   8.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   33 mg/dL
   102 mEq/L
   142 mEq/L
   30.1 %
   9.6 K/uL
        [image002.jpg]
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
   WBC
   10.0
   8.6
   8.6
   9.6
   7.7
   9.6
   Hct
   28.4
   30.2
   27.7
   26.7
   28.4
   30.1
   Plt
   [**Telephone/Fax (3) 8830**]80
   220
   284
   Cr
   7.4
   7.7
   5.7
   8.0
   9.9
   6.0
   8.1
   TCO2
   32
   31
   31
   Glucose
   77
   135
   183
   116
   155
   114
   300
   66
   Other labs: PT / PTT / INR:13.3/24.6/1.1, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:72.2 %, Band:0.0 %,
   Lymph:12.3 %, Mono:8.8 %, Eos:6.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
    # Sepsis: Continues with fevers, source still unclear but CT suggests
   possibility of osteomyelitis. ESR is 80, which is lower than what you
   would expect. On  vancomycin.  On and off pressors despite addition of
   midodrine and florinef.   More likely due to abnormal autonomic
   dysfunction [**12-20**] to renal failure, but ddx includes infectious etiology
   given recent h/o sepsis.
   - Continue midodrine and florinef and reduce levophed as tolerated
   -keep MAP > 65
   -continue vancomycin which he has been on for coverage of ?line
   infection, would continue this for ? osteomyelitis and it should cover
   the most likely organisms (strep+staph)
   -F/u MRI findings today for osteo; if continued suspicion, can call IR
   for drainage.
   -F/u final read of CT abd
   .
   # Respiratory Distress: Problem of inability to maintain secretions,
   based on failure of attempted trial of extubation.   Going for trach
   today
   -IP placing trach today
   -ddAVP 30 minutes prior to procedure
   - continue HD for volume overload
   - f/u sputum cx
   #Scrotal and buttock lesions
 most likely dependent skin ulcers
   - Herpes DFA - negative
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: continue on fosphenytoin, q4d free phenytoin level
   checks.
   - touch base re: anti-seizure regimen given
   # ESRD:
   - cont HD w/ femoral temp line
   - need more permanent access: touch base w: renal
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops.  Call optho re: eval.
   # DM: On SSI + lantus 40 daily; sugars well controlled 100-200
   # Access: axillary A-line, femoral line
   # Nutrition: tolerating TF
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full; confirmed with wife on admission via phone
   # Dispo: to remain in ICU while intubated
   -update family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2191-9-3**] 03:00 AM
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-07 09:48:00 Physician Attending Progress Note
Chief Complaint: Subdural hematoma, Encephalopathy/Delirium,
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRI of spine last PM to follow up on CT findings of ?osteo in L3-L5
   vertebrae
   Off levophed this this AM
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2191-9-6**] 11:05 AM
 MAGNETIC RESONANCE IMAGING - At [**2191-9-6**] 10:30 PM
   spine
 FEVER - 102.0
F - [**2191-9-6**] 12:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-9-6**] 10:00 PM
   Fentanyl - [**2191-9-6**] 10:00 PM
   Fosphenytoin - [**2191-9-7**] 08:55 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-9-7**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.4
C (97.5
   HR: 86 (76 - 93) bpm
   BP: 92/30(46) {57/27(43) - 193/96(122)} mmHg
   RR: 28 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,164 mL
                                                                     57 mL
   PO:
             TF:
                                                                    948 mL
                                                                      2 mL
   IVF:
                                                                    186 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,164 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 334 (301 - 475) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 210
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 10 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R arm swelling
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, more
   sleepy this AM
   Labs / Radiology
   9.2 g/dL
   284 K/uL
   66 mg/dL
   8.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   33 mg/dL
   102 mEq/L
   142 mEq/L
   30.1 %
   9.6 K/uL
        [image002.jpg]
                            [**2191-9-1**]  04:08 AM
                            [**2191-9-1**]  09:22 PM
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
   WBC
   10.0
   8.6
   8.6
   9.6
   7.7
   9.6
   Hct
   28.4
   30.2
   27.7
   26.7
   28.4
   30.1
   Plt
   [**Telephone/Fax (3) 8830**]80
   220
   284
   Cr
   7.4
   7.7
   5.7
   8.0
   9.9
   6.0
   8.1
   TCO2
   32
   31
   31
   Glucose
   77
   135
   183
   116
   155
   114
   300
   66
   Other labs: PT / PTT / INR:13.3/24.6/1.1, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:72.2 %, Band:0.0 %,
   Lymph:12.3 %, Mono:8.8 %, Eos:6.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Fluid analysis / Other labs: ESR: 80
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   73 yo man with initial history notable for sub-dural hematoma
   complicated by seizures subsequently - now with persistent renal
   failure and recurrent fever in the setting of sepsis.
   1)Septic shock-
   Still spiking fevers - there is a possibility of lumbar osteo on
   abdominal CT.  Awaiting read of f/u spine MRI.  Cont vanc and continue
   to culture with spikes.  Cont midodrine.  Femoral HD line.
   2)Respiratory Failure- Trach today.  Holding off on PEG given fevers.
   Appreciate IP's input.
   3)Renal Failure- Having problem this AM with HD catheter -- TPA being
   administered.  If this catheter proves inoperative, will need to
   discuss difficult access isue with renal team
   4)Sub-Dural Hematoma/Altered Mental Status- Mental status has palteuaed
   - more sleepy today
   5)Seizure Disorder- Neurontin, Dilantin
    Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2191-9-3**] 03:00 AM
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2191-09-08 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - trach from IP - a little bit of oozing at the site, which improved.
   He became agitated afterwards and tachypneic. Confirmed trach
   placement, and no PNX with radiology.  Concerned about pain, increased
   his sedation.  Still tachypneic, switched to AC to further increase
   sedation.  Stopped overbreathing, pH improved.  He continued to remain
   agitated throughout the night.
   - MRI spine: no osteo
   - CT abd:  Schmorl's nodes/?osteo. Prominent mediastinal LN
   - sputum cx [**9-6**]: sparse MRSA, sparse GNR.
   - Renal believes clotting of lines may be [**12-20**] dilantin, don't have a
   lot of other suggestions regarding HD access at this time
   - fever 101.5F
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-7**] 01:54 PM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2191-9-7**] 11:40 AM
   Fosphenytoin - [**2191-9-7**] 04:20 PM
   Midazolam (Versed) - [**2191-9-8**] 04:35 AM
   Fentanyl - [**2191-9-8**] 04:35 AM
   Morphine Sulfate - [**2191-9-8**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-8**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 93 (76 - 94) bpm
   BP: 167/73(97) {80/30(46) - 200/165(175)} mmHg
   RR: 27 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                    865 mL
                                                                    550 mL
   PO:
             TF:
                                                                     77 mL
                                                                    452 mL
   IVF:
                                                                    418 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 591 (334 - 591) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 16 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.58/30/133/24/7
   Ve: 14.1 L/min
   PaO2 / FiO2: 266
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   8.8 g/dL
   174 mg/dL
   5.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   20 mg/dL
   103 mEq/L
   140 mEq/L
   28.7 %
   8.1 K/uL
        [image002.jpg]
                            [**2191-9-2**]  02:21 AM
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
   WBC
   10.0
   8.6
   8.6
   9.6
   7.7
   9.6
   8.1
   Hct
   28.4
   30.2
   27.7
   26.7
   28.4
   30.1
   28.7
   Plt
   [**Telephone/Fax (3) 8830**]80
   220
   284
   267
   Cr
   7.7
   5.7
   8.0
   9.9
   6.0
   8.1
   5.3
   TCO2
   31
   31
   29
   Glucose
   183
   116
   155
   114
   300
   66
   174
   Other labs: PT / PTT / INR:13.3/24.6/1.1, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:72.2 %, Band:0.0 %,
   Lymph:12.3 %, Mono:8.8 %, Eos:6.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.5
   mg/dL
   Imaging: CXR:
   Microbiology: Preliminary Sputum Cx: Spare growth Staph aureus coag +
   and GNR
   Catheter tip negative
   Blood cx pending, last negative [**9-1**]
   Assessment and Plan
   73 yom HD-dependent, admitted with left acute on chronic SDH c/b
   seizure, transferred to MICU for concern of sepsis with hypoxia and
   hypotension.
    # Fevers: Continues with fevers, not osteomyelitis by MRI.  On
   vancomycin (day 7) for ?line infection although negative cultures.  On
   and off pressors despite addition of midodrine and florinef.   More
   likely due to abnormal autonomic dysfunction [**12-20**] to renal failure, but
   ddx includes infectious etiology given recent h/o sepsis.  With
   eosinophilia also consider drug reaction.
   - Continue midodrine and florinef and reduce levophed as tolerated
   - d/c all nonessential meds, vanc, dilantin
   - keep MAP > 65
   .
   # Respiratory Distress: Trach yesterday. Had some oozing but improved.
   Episodic aggitation and tachypnia, improved with increased sedation and
   AC.
   - monitor trach site
   - wean vent as tolerated
   - continue HD for volume overload
   - f/u sputum cx
   #Scrotal and buttock lesions
 most likely dependent skin ulcers.
   Herpes DFA - negative
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: continue on fosphenytoin, q4d free phenytoin level
   checks.
   - touch base re: anti-seizure regimen given dilantin could be causing
   clotting in HD
   # ESRD:
   - cont HD w/ femoral temp line
   - need more permanent access: touch base w: renal
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops.
   -Consider inpt optho c/s if continued prolonged hospitalization.
   # DM: On SSI + lantus 40 daily; elevated sugars in am
   - adjust SSI
   # Access: femoral line
   # FEN: tolerating TF, give phos
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full (confirmed with wife on admission via phone)
   # Dispo: to remain in ICU while intubated
   - family meeting to discuss goals of care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-7**] 10:45 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-09 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke with daughter about current situation, did not seem to be ready
   for backing off care, wants to reeval mental status after HD
   - Dilatin d/c'd, neuro to make recs tomorrow re different antiepileptic
   - renal recs: d/c dilantin
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-7**] 01:54 PM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2191-9-8**] 08:15 AM
   Lansoprazole (Prevacid) - [**2191-9-8**] 08:02 PM
   Morphine Sulfate - [**2191-9-9**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-9**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.6
C (99.6
   HR: 79 (73 - 92) bpm
   BP: 97/41(54) {74/38(50) - 172/103(159)} mmHg
   RR: 12 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,670 mL
                                                                    495 mL
   PO:
             TF:
                                                                  1,260 mL
                                                                    457 mL
   IVF:
                                                                    120 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    495 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 80 (80 - 466) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 9.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   338 K/uL
   8.9 g/dL
   219 mg/dL
   7.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   35 mg/dL
   100 mEq/L
   142 mEq/L
   29.2 %
   9.4 K/uL
        [image002.jpg]
                            [**2191-9-3**]  03:31 AM
                            [**2191-9-3**]  04:03 AM
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
   WBC
   8.6
   8.6
   9.6
   7.7
   9.6
   8.1
   9.4
   Hct
   30.2
   27.7
   26.7
   28.4
   30.1
   28.7
   29.2
   Plt
   196
   241
   280
   220
   284
   267
   338
   Cr
   5.7
   8.0
   9.9
   6.0
   8.1
   5.3
   7.6
   TCO2
   31
   31
   29
   Glucose
   116
   155
   114
   300
   66
   174
   219
   Other labs: PT / PTT / INR:13.9/25.6/1.2, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:82.3 %, Band:0.0 %,
   Lymph:8.1 %, Mono:5.5 %, Eos:3.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   ESRD admitted with subdural hematomas after fall, now w/ poor mental
   status and persistent fevers.
   .
   # Fevers: Some improvement after d/c of fosphenytoin although one fever
   spike O/N to 101.  Has not required pressors for last 24 hrs although
   still on midodrine and florinef.  Have extensively searched for
   underlying source of fevers, including re-peated pancultures,  CT of
   chest, abdomen, pelvis.  The only findings have been  enlarged
   mediastinal lymph nodes: (1.5 x 2.1 cm prevascular lymph node and a
   precarinal lymph node measuring 2.2 x 0.7 cm).   Repeated sputum
   cultures show gram + cocci, however has already received long abx
   course for MRSA PNA and likely represents continued colonization.  Have
   D/c'd nonessential meds to eliminate possible sources of drug fever,
   including fosphenytoin yesterday.  Other tests not yet done for fever
   of unknown origin workup include: lower extremity US.
   -Can consider lower extremity US to search for DVT
   - Continue midodrine and florinef and reduce levophed as tolerated
   (hasn't required over last 24 hours): if no pressor requirement today,
   consider tapering off florinef and midodrine tomorrow
   - d/c all nonessential meds, vanc, dilantin
   - keep MAP > 65
   .
   #Mental Status change - Continues to be non-responsive to
   instructions.  Slight improvement in that he does make intermittent
   purposeful movements, including trying to remove trach.   Unclear
   underlying etiology: could be secondary to slow clearance of sedation
   or delirium of underlying infection versus effect of subdural
   hematomas.
   -Continue to hold sedation
   .
   # Respiratory Distress: Trach placed.   Had some oozing but improved.
   Attempt switch to pressure support today.
   - monitor trach site
   - continue HD for volume overload
   .
   #Scrotal and buttock lesions
 most likely dependent skin ulcers.
   Herpes DFA - negative
   - continue wound care
   .
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: to taper dilantin:  went back up to 200 mg dilantin X 2
   days, then 100 mg starting on [**9-11**] for 2 days, then can discontinue
   -uptitrating keppra to 250 mg [**Hospital1 **] X 3 days, then increase to 500 mg qAM
   and 250 qPM on day 4; will also get 500 mg boluses after each HD
   session
   .
   # ESRD:
   - cont HD w/ femoral temp line today
   - need more permanent access: touch base w: renal
   .
   # SDH: continue to hold anticoagulation, will follow neurology recs
   .
   # Glaucoma /  Cataracts: continue home eye drops.
   -Consider inpt optho c/s if continued prolonged hospitalization.
   .
   # DM: On SSI + lantus 40 daily; elevated sugars in am
   - adjust SSI
   .
   # Access: femoral line
   .
   # FEN: tolerating TF, give phos
   .
   # PPX: pneumoboots,  PPI; bowel reg
   .
   # Code: full (confirmed with wife on admission via phone)
   .
   # Dispo: to remain in ICU while intubated
   - family meeting to discuss goals of care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-9**] 01:42 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-10 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2191-9-9**] 05:30 PM
   -obtained lower extremity US to assess for DVT given persistent fevers:
   none seen
   -dilantin on 200 [**Hospital1 **] X 2 days, will taper down to 100 [**Hospital1 **] X 2 days
   thereafter, then D/c
   -on keppra 250 [**Hospital1 **] X 3 days, then keppra 500 qam 250 qpm
   -[**Last Name (un) **] stim test in PM given hypotension , results pending
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-9-7**] 01:54 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-9-9**] 09:04 AM
   Fosphenytoin - [**2191-9-9**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-10**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 84 (79 - 98) bpm
   BP: 138/76(93) {76/38(52) - 138/76(93)} mmHg
   RR: 28 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.5 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,608 mL
                                                                    176 mL
   PO:
             TF:
                                                                  1,319 mL
                                                                    144 mL
   IVF:
                                                                    129 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,608 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 548 (291 - 548) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: ///33/
   Ve: 9.7 L/min
   Physical Examination
   Cardiovascular: Gen: intubated sedated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   8.6 g/dL
   107 mg/dL
   5.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   24 mg/dL
   101 mEq/L
   144 mEq/L
   28.4 %
   16.6 K/uL
        [image002.jpg]
                            [**2191-9-3**]  04:05 PM
                            [**2191-9-4**]  04:50 AM
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
   WBC
   8.6
   9.6
   7.7
   9.6
   8.1
   9.4
   16.6
   Hct
   27.7
   26.7
   28.4
   30.1
   28.7
   29.2
   28.4
   Plt
   241
   280
   220
   [**Telephone/Fax (3) 8892**]
   307
   Cr
   8.0
   9.9
   6.0
   8.1
   5.3
   7.6
   5.4
   TCO2
   31
   29
   Glucose
   155
   114
   300
   66
   174
   219
   107
   Other labs: PT / PTT / INR:12.7/18.9/1.1, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:82.3 %, Band:0.0 %,
   Lymph:8.1 %, Mono:5.5 %, Eos:3.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Imaging: BLE US - negative for DVT
   Microbiology: STAPH AUREUS COAG + - sparse growth
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------   <=1 S
   NON-FERMENTER, NOT PSEUDOMONAS AERUGINOSA - sparse growth
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------     2 S
   CEFTRIAXONE-----------     8 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   IMIPENEM--------------   <=1 S
   LEVOFLOXACIN----------     1 S
   MEROPENEM-------------     1 S
   PIPERACILLIN----------    16 S
   PIPERACILLIN/TAZO-----     8 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----     4 R
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ESRD admitted with subdural hematomas after fall, now w/ poor mental
   status and persistent fevers.
   # Fevers: Given negative workup for FUO, considering drug fever as
   underlying source.  However, also has a leukocytosis today which he has
   intermittently had, in this case may be due to coritsol stim test.
   Some improvement after d/c of fosphenytoin although one fever spike O/N
   to 101.  Has not required pressors for last 48 hrs (one hrs duration
   last night)  although still on midodrine and florinef.  Have
   extensively searched for underlying source of fevers, including
   repeated pancultures,  CT of chest, abdomen, pelvis.  The only findings
   have been  enlarged mediastinal lymph nodes: (1.5 x 2.1 cm prevascular
   lymph node and a precarinal lymph node measuring 2.2 x 0.7 cm).
   Repeated sputum cultures show gram + cocci, however has already
   received long abx course for MRSA PNA and likely represents continued
   colonization.   Also has non-fermenter bacteria (not pseudomonas).
   Have D/c'd nonessential meds to eliminate possible sources of drug
   fever, including fosphenytoin yesterday.  Lower extremity US
   negative.
   - f/u diff for bandemia - if positive consider starting tx for non
   fermenter bacteria
   - CXR
   - Continue midodrine and florinef and reduce levophed as tolerated
   (brief requirement over last 24 hours): if no pressor requirement
   today, consider tapering off florinef and midodrine tomorrow
   - d/c all nonessential meds, vanc, dilantin
   - keep sbp> 90
   #Persistent hypotension - poor autonomic function given renal failure,
   vs sepsis vs adrenal insufficiency
   - [**Last Name (un) **] stim test pending
   - higher threshold to start pressors, sbp> 90
   - no underlying infection has been discovered despite requirement of
   pressors
   #Metabolic alkylosis - Worsening in the state of persistently elevated
   minute ventilation.   Overbreathing vent (set at MV of 8.8L/min).
   - avoiding sedation
   - switch to pressure control for improved comfort.
   # Respiratory Distress: On AC with trach.  Attempt switch to pressure
   support today.
   #Mental Status change - Continues to be non-responsive to
   instructions.  Slight improvement in that he does make intermittent
   purposeful movements, including trying to remove trach.   Unclear
   underlying etiology: could be secondary to slow clearance of sedation
   or delirium of underlying infection versus effect of subdural
   hematomas.
   -Continue to hold sedation
   #Scrotal and buttock lesions
 most likely dependent skin ulcers.
   Herpes DFA - negative
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: to taper dilantin:  200 mg dilantin today, then 100 mg
   starting on [**9-11**] for 2 days, then can discontinue
   - uptitrating keppra to 250 mg [**Hospital1 **] X 2 days, then increase to 500 mg
   qAM and 250 qPM on [**9-12**]; will also get 500 mg boluses after each HD
   session
   # ESRD:
   - cont HD w/ femoral temp line today
   - need more permanent access: touch base w: renal
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops.
   -Consider inpt optho c/s if continued prolonged hospitalization.
   # DM: On SSI + lantus 40 daily; maintain BG < 250
   # Access: femoral line
   # FEN: tolerating TF, replate lytes prn
   # PPX: pneumoboots,  PPI; bowel reg
   # Code: full (confirmed with wife on admission via phone)
   # Dispo: to remain in ICU while intubated
   - family meeting to discuss goals of care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-10**] 04:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   PE (not included above)
   Appears agitated, responsive to some commands
   RRR, Nl S1 and S2, no murmur
   Lungs rhonchorous
   Abd non distended non tender
   Femoral line clean, examination causes patient discomfort
   No peripheral edema, extremeities warm and well perfused
   Pupils minimally responsive, able to move all extremeties except RUE.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 34**], MD
   on:[**2191-9-10**] 18:17 ------
   Chart reviewed, pt examined, case discussed in detail.  I was with Dr.
   [**First Name (STitle) 34**] and team for delivery of all key services.  Her note above
   reflects my thoughts.  In addition, I would add/emphasize:
   -LENIs neg for DVT
   73M ESRD admitted with subdural hematomas after fall, admitted with
   altered mental status and persistent fevers.
Fevers:
   -negative w/u to date
   -leading dx drug fever
   -? Fosphenytoin though did have a spike post d/c
   -d/c nonessential drugs
   -cont to cx and imaging to assess for source
Altered mental status
   -remains unresponsive
   -is doing some purposeful movement which is improvement
   -etiology felt slow clearance of drugs/metabolites vs. residual effect
   from SDH
   -cont to hold sedating drugs
Persistent hypotension
   - etiology: autonomic dysfxn related to renal failure vs. adrenal
   insufficiency vs. sepsis
   - [**Last Name (un) **] stim test performed/pending
 Respiratory failure:
   -trached
   -trial PSV today
Seizure:
   -EEG neg.  no evidence of ongoing seizure activity
   -management of meds per neuro recs
 ESRD:
   - stable, cont HD
Access
   -extremely challenging with Mr. [**Known lastname 8498**]
   -needs more permanent access- d/w renal
 SDH
   -holding anticoagulation
   -neurology following
   For remainder of plan, please see resident note above.
   Patient is critically ill.
   Time spent on care: 35min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) 323**], MD
   on:[**2191-9-10**] 19:41 ------

2191-09-11 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Last Name (un) 1398**] Stim 16.9 --> 31.7 --> 36.5, adequate
   - increased free water flushes
   - trial on vent mask, unsuccessful after 2.5 hrs, back on PS 10/5.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2191-9-11**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-11**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 79 (75 - 96) bpm
   BP: 128/61(76) {97/41(61) - 162/119(125)} mmHg
   RR: 26 (16 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.5 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,977 mL
                                                                    678 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    240 mL
   IVF:
                                                                    127 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,977 mL
                                                                    678 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (319 - 378) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.38/56/80.[**Numeric Identifier 500**]/29/5
   Ve: 7.7 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   376 K/uL
   9.0 g/dL
   272 mg/dL
   7.5 mg/dL
   29 mEq/L
   5.2 mEq/L
   40 mg/dL
   99 mEq/L
   142 mEq/L
   30.0 %
   14.9 K/uL
        [image002.jpg]
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
                            [**2191-9-10**]  05:18 PM
                            [**2191-9-11**]  02:55 AM
   WBC
   9.6
   7.7
   9.6
   8.1
   9.4
   16.6
   14.9
   Hct
   26.7
   28.4
   30.1
   28.7
   29.2
   28.4
   30.0
   Plt
   280
   220
   284
   [**Telephone/Fax (3) 8920**]
   376
   Cr
   9.9
   6.0
   8.1
   5.3
   7.6
   5.4
   7.5
   TCO2
   29
   34
   Glucose
   114
   300
   66
   174
   219
   107
   272
   Other labs: PT / PTT / INR:12.0/22.3/1.0, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:82.0 %, Band:1.0 %,
   Lymph:7.3 %, Mono:6.2 %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR
   Microbiology: SPUTUM  GRAM STAIN:
         3+:   GRAM NEGATIVE ROD(S).
         1+:   GRAM POSITIVE COCCI IN PAIRS.
   Blood Cx: negative from [**9-4**], pending
   Urine Cx: pending
   Assessment and Plan
   73yoM h/o ESRD admitted with subdural hematomas after fall, now w/ poor
   mental status and persistent fevers.
   # Fevers: Given negative workup for FUO, considering drug fever as
   underlying source.  No fever x24hrs.  Have D/c'd nonessential meds to
   eliminate possible sources of drug fever, including fosphenytoin.
   Leukocytosis trending down.  On midodrine and florinef, few hours on
   very low dose levo.  Have extensively searched for underlying source of
   fevers, including repeated pancultures, Lower extremity US negative,
   CT of chest, abdomen, pelvis.  Repeated sputum cultures show gram +
   cocci, however has already received long abx course for MRSA PNA and
   likely represents continued colonization.
   #Persistent hypotension - poor autonomic function given renal failure,
   vs sepsis vs adrenal insufficiency.  [**Last Name (un) 1398**] stim test adequate.
   - Continue midodrine and florinef and reduce levophed as tolerated
   (brief requirement over last 24 hours): if no pressor requirement
   today, consider tapering off florinef and midodrine tomorrow
   - higher threshold to start pressors, sbp> 90
   - no underlying infection has been discovered despite requirement of
   pressors
   #Metabolic alkylosis - Worsening in the state of persistently elevated
   minute ventilation.   Overbreathing vent (set at MV of 8.8L/min).
   - avoiding sedation
   - switch to pressure control for improved comfort.
   # Respiratory Distress: On AC with trach.  Attempt switch to pressure
   support today.
   #Mental Status change - Continues to be non-responsive to
   instructions.  Slight improvement in that he does make intermittent
   purposeful movements, including trying to remove trach.   Unclear
   underlying etiology: could be secondary to slow clearance of sedation
   or delirium of underlying infection versus effect of subdural
   hematomas.
   -Continue to hold sedation
   #Scrotal and buttock lesions
 most likely dependent skin ulcers.
   Herpes DFA - negative
   - continue wound care
   # Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   - Neuro recs: to taper dilantin: 100 mg starting on [**9-11**] for 2 days,
   then can discontinue
   - uptitrating keppra to 250 mg [**Hospital1 **] X 2 days, then increase to 500 mg
   qAM and 250 qPM on [**9-12**]; will also get 500 mg boluses after each HD
   session
   # ESRD:
   - cont HD w/ femoral temp line today
   - need more permanent access: touch base w: renal
   # SDH: continue to hold anticoagulation, will follow neurology recs
   # Glaucoma /  Cataracts: continue home eye drops.
   -Consider inpt optho c/s if continued prolonged hospitalization.
   # DM: On SSI + lantus 40 daily; maintain BG < 250
   # Access: femoral line, now afebrile -> PICC tomorrow
   # FEN: tolerating TF, replate lytes prn
   # PPX: pneumoboots,  PPI; bowel regimen
   # Code: full (confirmed with wife on admission via phone)
   # Dispo: to remain in ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-11 11:02:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Resp failure, persistent fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Trial on vent mask, required return to mech vent after 2.5 hrs
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2191-9-11**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-11**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 83 (75 - 93) bpm
   BP: 147/54(79) {97/41(63) - 162/119(125)} mmHg
   RR: 37 (16 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.5 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,978 mL
                                                                  1,230 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    646 mL
   IVF:
                                                                    127 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,978 mL
                                                                  1,230 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 293 (293 - 378) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 103
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.38/56/80.[**Numeric Identifier 500**]/29/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, NG tube, trached
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   376 K/uL
   272 mg/dL
   7.5 mg/dL
   29 mEq/L
   5.2 mEq/L
   40 mg/dL
   99 mEq/L
   142 mEq/L
   30.0 %
   14.9 K/uL
        [image002.jpg]
                            [**2191-9-5**]  02:40 AM
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
                            [**2191-9-10**]  05:18 PM
                            [**2191-9-11**]  02:55 AM
   WBC
   9.6
   7.7
   9.6
   8.1
   9.4
   16.6
   14.9
   Hct
   26.7
   28.4
   30.1
   28.7
   29.2
   28.4
   30.0
   Plt
   280
   220
   284
   [**Telephone/Fax (3) 8920**]
   376
   Cr
   9.9
   6.0
   8.1
   5.3
   7.6
   5.4
   7.5
   TCO2
   29
   34
   Glucose
   114
   300
   66
   174
   219
   107
   272
   Other labs: PT / PTT / INR:12.0/22.3/1.0, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:82.0 %, Band:1.0 %,
   Lymph:7.3 %, Mono:6.2 %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   73M ESRD admitted with subdural hematomas after fall, admitted with
   altered mental status and persistent fevers.
Fevers:
   -negative w/u to date - did have GNR in sputum but trached so likely
   colonizer
   -leading dx drug fever
       -? Fosphenytoin though did have a spike post d/c
       -d/c nonessential drugs
   -cont to cx and imaging to assess for source

Altered mental status
   -remains unresponsive
   -is doing some purposeful movement which is improvement
   -etiology felt slow clearance of drugs/metabolites vs. residual effect
   from SDH
   -cont to hold sedating drugs

Persistent hypotension
   - etiology: autonomic dysfxn related to renal failure vs. adrenal
   insufficiency vs. sepsis
   - [**Last Name (un) **] stim test performed/pending
 Respiratory failure:
   -trached
   -trial PSV today

Seizure:
   -EEG neg.  no evidence of ongoing seizure activity
   -management of meds per neuro recs

 ESRD:
   - stable, cont HD

Access
   -extremely challenging with Mr. [**Known lastname 8498**]
   -needs more permanent access- d/w renal

Glycemic control
   titrate SSRI
 SDH
   -holding anticoagulation
   -neurology following
   For remainder of plan, please see resident note above.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-9-11**] 03:59 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-09-12 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Low grade fever to 100.1 at 3pm and 6pm, was BCx
d x2 and sputum Cx
   with 2+ GPC
s and 2+ GNR
s. Then febrile this am while on rounds up to
   102.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2191-9-12**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-12**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 84 (76 - 98) bpm
   BP: 139/53(75) {125/39(65) - 181/78(95)} mmHg
   RR: 24 (17 - 50) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,520 mL
                                                                    272 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    239 mL
   IVF:
                                                                    120 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,820 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (293 - 414) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   437 K/uL
   8.4 g/dL
   254 mg/dL
   8.8 mg/dL
   26 mEq/L
   5.0 mEq/L
   56 mg/dL
   98 mEq/L
   139 mEq/L
   28.3 %
   13.9 K/uL
        [image002.jpg]
                            [**2191-9-6**]  03:25 AM
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
                            [**2191-9-10**]  05:18 PM
                            [**2191-9-11**]  02:55 AM
                            [**2191-9-12**]  03:36 AM
   WBC
   7.7
   9.6
   8.1
   9.4
   16.6
   14.9
   13.9
   Hct
   28.4
   30.1
   28.7
   29.2
   28.4
   30.0
   28.3
   Plt
   220
   284
   267
   338
   307
   376
   437
   Cr
   6.0
   8.1
   5.3
   7.6
   5.4
   7.5
   8.8
   TCO2
   29
   34
   Glucose
   300
   66
   174
   219
   107
   272
   254
   Other labs: PT / PTT / INR:11.9/22.0/1.0, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:23/44, Alk Phos / T Bili:168/0.4,
   Amylase / Lipase:41/64, Differential-Neuts:82.4 %, Band:1.0 %,
   Lymph:6.0 %, Mono:6.5 %, Eos:4.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   73yoM h/o ESRD anuric on HD, admitted for SDHs c/b seizures after a
   fall, now with unresponsive mental status and persistent fevers.
   1. Fevers: Given negative workup for FUO, considering drug fever as
   underlying source.  Low grade fever to 100.1 yesterday afternoon, pt
   was recultured with 2 BCx's and sputum Cx showing 2+ GPC's in pairs and
   2+ GNR's which do not appear to be new, and pt has received long course
   of ABx for MRSA PNA, so Cx's likely represent continued colonization.
   Workup to date has included removal of all nonessential meds to
   eliminate sources of drug fever, repeated panCx's, LE u/s which was
   negative and CT thorax which recommended MRI Lspine for evaluation of
   infectious etiology vs Schmorl's nods, and subsequent MRI Lspine which
   did not show infectious osteo or discitis. WBC count continues to trend
   down,and pt was not hypotensive through yesterday, pressors now being
   held. Pt currently off ABx.
   --Will not restart ABx
   --Check culture every other day
   --Head CT with sinus protocol to eval for sinus infection
   2. Seizure: no gross evidence of ongoing seizure activity; EEG is
   negative
   --Neuro recs Dilantin taper
 will d/c today.
   --Uptitrating Keppra, today to receive 500mg in am and 250mg in pm.
   Continue 500mg boluses after HD.
   3. DM: On SSI + lantus 40 daily; maintain BG < 250
    -  Blood sugars in 300
s yesterday, will need adjustment of SSI
   4. Hypotension
Resolving, as not currently hypotense > 24hrs. Poor
   autonomic function given renal failure, vs sepsis vs adrenal
   insufficiency.  [**Last Name (un) 1398**] stim test adequate.
   --Midodrine held yesterday as sbp's ranging 125-181, now off pressors
   --No infections found to date to explain previous hypotension
   5. Respiratory Distress: On PSV with trach, currently [**8-22**] with FiO2
   50%
   --Attempt to trach mask.
   6. Mental Status change: Per nursing was moving L arm to commands,
   however unable to follow commands this am. Does have spontaneous
   movement of 4 extrems. Unclear underlying etiology: could be secondary
   to slow clearance of sedation or delirium of underlying infection
   versus effect of subdural hematomas.
   --Continue to hold sedation
   --Will get EEG today
   7. Scrotal and buttock ulcers
 most likely dependent skin ulcers.
   Herpes DFA - negative
   --continue wound care
   8. ESRD:
   - Cont HD w/ femoral temp line, to get HD today with Epo
   - Will need to discuss placement of more permanent/tunneled line with
   renal, and whether low grade 100.1 temps will contraindicate.
   - Access still L femoral line placed [**2191-9-4**].
   8. SDH
Hold anticoagulation.
   --Will get repeat EEG to see if having subclinical seizures.
   9. Glaucoma /  Cataracts: continue home eye drops.
   -Consider inpt optho c/s if continued prolonged hospitalization.
   11. Access: femoral line, currently temporary and will need placement
   of more permanent line.
   # FEN: tolerating TF, replate lytes prn
   --IP to evaluate today for placement of PEG tube, currently NPO
   --If PEG tube placed will remove NG tube
   # PPX: pneumoboots,  PPI; bowel regimen
   # Code: full (confirmed with wife on admission via phone)
   # Dispo: to remain in ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-13 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Febrile to 102 this am, re-BCx and Myco/lytic Cx
   --HD yesterday
   --EEG
   --BP's increasing and Fluoronef and Midodrine tapered
   --Head CT with opacification of mastoids, sinus mucosal thickening;
   ethmoidal, L maxillary, and sphenoidal sinuses with hyperdense material
   in L sphenoid sinus, could be inspissated mucus vs fungal infection in
   sphenoid sinus  --> NGT removed
   --Held all sedating/pain meds
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-13**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.2
C (97.1
   HR: 81 (73 - 93) bpm
   BP: 150/55(75) {94/22(42) - 159/85(94)} mmHg
   RR: 27 (20 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 94.2 kg
   Height: 70 Inch
                  Total In:
                                                                    283 mL
                  PO:
                  TF:
                                                                    239 mL
   IVF:
                                                                     44 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -217 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: T-piece, Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 556 (556 - 556) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 12 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   8.5 g/dL
   82 mg/dL
   7.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   42 mg/dL
   99 mEq/L
   142 mEq/L
   28.6 %
   13.8 K/uL
        [image002.jpg]
                            [**2191-9-7**]  04:19 AM
                            [**2191-9-7**]  09:21 PM
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
                            [**2191-9-10**]  05:18 PM
                            [**2191-9-11**]  02:55 AM
                            [**2191-9-12**]  03:36 AM
                            [**2191-9-13**]  04:03 AM
   WBC
   9.6
   8.1
   9.4
   16.6
   14.9
   13.9
   13.8
   Hct
   30.1
   28.7
   29.2
   28.4
   30.0
   28.3
   28.6
   Plt
   [**Telephone/Fax (2) 8939**]
   387
   Cr
   8.1
   5.3
   7.6
   5.4
   7.5
   8.8
   7.6
   TCO2
   29
   34
   Glucose
   66
   174
   219
   107
   272
   254
   82
   Other labs: PT / PTT / INR:11.9/22.0/1.0, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:38/87, Alk Phos / T Bili:270/0.7,
   Amylase / Lipase:41/42, Differential-Neuts:82.4 %, Band:1.0 %,
   Lymph:6.0 %, Mono:6.5 %, Eos:4.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: CT HEAD: opacification of mastoids, sinus mucosal thickening;
   ethmoidal, L maxillary, and sphenoidal sinuses with hyperdense material
   in L sphenoid sinus, could be inspissated mucus vs fungal infection in
   sphenoid sinus
   Microbiology: Sputum Gram Stain:
         2+ GRAM POSITIVE COCCI IN PAIRS.
         2+ GRAM NEGATIVE ROD(S).
   Assessment and Plan
   73yoM h/o ESRD anuric on HD, admitted for SDHs c/b seizures after a
   fall, now with unresponsive mental status and persistent fevers.
   1. Fevers: Given negative workup for FUO, considering drug fever as
   underlying source.  Febrile to 102 this am , pt was recultured re-BCx
   and Myco/lytic Cx.  Head CT with opacification of mastoids, sinus
   mucosal thickening; ethmoidal, L maxillary, and sphenoidal sinuses with
   hyperdense material in L sphenoid sinus, could be inspissated mucus vs
   fungal infection in sphenoid sinus  --> NGT removedWith 2 BCx's and
   sputum Cx showing 2+ GPC's in pairs and 2+ GNR's which do not appear to
   be new, and pt has received long course of ABx for MRSA PNA, so Cx's
   likely represent continued colonization. Workup to date has included
   removal of all nonessential meds to eliminate sources of drug fever,
   repeated panCx's, LE u/s which was negative and CT thorax which
   recommended MRI Lspine for evaluation of infectious etiology vs
   Schmorl's nods, and subsequent MRI Lspine which did not show infectious
   osteo or discitis. WBC count continues to trend down,and pt was not
   hypotensive through yesterday, pressors now being held. Pt currently
   off ABx.
   - Nasopharyngeal culture?
   - Will not restart ABx
   - Check culture every other day
   2. Seizure: no gross evidence of ongoing seizure activity; however
   mental status poor, EEG repeated and pending. Dilantin stopped.  Keppra
   500mg in am and 250mg in pm. Continue 500mg boluses after HD.
   3. DM: On SSI + lantus 40 daily; maintain BG < 250
    -  Blood sugars in 300
s yesterday, will need adjustment of SSI
   4. Hypotension
Resolving, no pressors> 24hrs. Fluoronef and Midodrine
   tapered. Poor autonomic function given renal failure vs sepsis. [**Last Name (un) 1398**]
   stim test adequate.
   - Continue to wean Fluoronef and Midodrine as tolerated
   5. Respiratory Distress: On PSV with trach, currently [**8-22**] with FiO2
   50%
   --Attempt to trach mask.
   6. Mental Status change: Per nursing was moving L arm to commands,
   however unable to follow commands this am. Does have spontaneous
   movement of 4 extrems. Unclear underlying etiology: could be secondary
   to slow clearance of sedation or delirium of underlying infection
   versus effect of subdural hematomas.
   --Continue to hold sedation
   7. Scrotal and buttock ulcers
 most likely dependent skin ulcers.
   Herpes DFA - negative
   --continue wound care
   8. ESRD:  HD yesterday with EPO
   - Cont HD w/ femoral temp line
   - Access still L femoral line placed [**2191-9-4**].
   8. SDH
Hold anticoagulation.
   --Will get repeat EEG to see if having subclinical seizures.
   9. Glaucoma /  Cataracts: continue home eye drops.
   -Consider inpt optho c/s if continued prolonged hospitalization.
   # Access: femoral line
   - IR evaluated for tunneled line to be done tomorrow
   # FEN: tolerating TF, replate lytes prn
   - NG pulled yesterday, PEG today, currently NPO
   # PPX: pneumoboots,  PPI, bowel regimen
   # Code: full (confirmed with wife on admission via phone)
   # Dispo: to remain in ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2191-9-5**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-09-14 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt received tunneled HD line,  PICC line, and PEG tube all yesterday.
   PEG tube draining dark bilious material when set to drainage
   ENT consulted for sinusitis seen on CT scan, nasal steroids,
   neosynephrine spray, and ABx started.
   Continues only on Keppra, no Dilantin
   Afebrile through yesterday
   RSBI 69 this am
   Transiently hypotense when PEG tube placed, received fluid bolus, but
   otherwise normotensive through day and Midodrine set to lower
   parameters
   7.38/50/70  on T piece 12L and FiO2 50%  but put back on vent overnight
   due to sedation from procedures yesterday, but back to T piece this am
   ENT feels that sinusitis on CT scan is due to obstruction by chronic NG
   tube and that this will clear once NG tube is out.  They recommended
   saline wash, nasal steroids, augmentin and re-image in 4 to 7 days.
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2191-9-13**] 04:30 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-9-13**] 04:45 PM
   Propofol - [**2191-9-13**] 05:35 PM
   Fentanyl - [**2191-9-13**] 06:00 PM
   Lansoprazole (Prevacid) - [**2191-9-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-9-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 86 (74 - 93) bpm
   BP: 172/62(81) {73/33(42) - 172/80(92)} mmHg
   RR: 16 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,000 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    790 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    850 mL
   Urine:
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                   -782 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 447 (367 - 447) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/50/70/25/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Opens eyes to voice, squeezed hand on the L but not on the R. Doesn
   track across room.  On T piece.
   Rhonchorous BS
   S1 S2 soft, difficult to hear over breath sounds
   Abd protruberant, with new PEG tube placed
   New PICC on L and HD line on R
   Pneumoboots on
   Labs / Radiology
   373 K/uL
   7.7 g/dL
   116 mg/dL
   9.0 mg/dL
   25 mEq/L
   4.6 mEq/L
   50 mg/dL
   99 mEq/L
   141 mEq/L
   24.9 %
   10.9 K/uL
        [image002.jpg]
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
                            [**2191-9-10**]  05:18 PM
                            [**2191-9-11**]  02:55 AM
                            [**2191-9-12**]  03:36 AM
                            [**2191-9-13**]  04:03 AM
                            [**2191-9-13**]  10:59 AM
                            [**2191-9-14**]  05:10 AM
   WBC
   8.1
   9.4
   16.6
   14.9
   13.9
   13.8
   10.9
   Hct
   28.7
   29.2
   28.4
   30.0
   28.3
   28.6
   24.9
   Plt
   [**Telephone/Fax (3) **]76
   437
   387
   373
   Cr
   5.3
   7.6
   5.4
   7.5
   8.8
   7.6
   9.0
   TCO2
   34
   31
   Glucose
   174
   219
   107
   272
   254
   82
   116
   Other labs: PT / PTT / INR:11.9/22.0/1.0, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:38/87, Alk Phos / T Bili:270/0.7,
   Amylase / Lipase:41/42, Differential-Neuts:82.4 %, Band:1.0 %,
   Lymph:6.0 %, Mono:6.5 %, Eos:4.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.0 mg/dL
   Microbiology: Aspergillus [**2191-9-9**] still pending
   BCx x4 pending from [**9-11**] to [**9-14**]
   Catheter tip [**2191-9-13**] still pending
   Sputum Cx x3 with GPC coag + Staph and GNR not pseudomonas
   Assessment and Plan
   73yoM h/o ESRD anuric on HD, admitted for SDHs c/b seizures after a
   fall, was ventilated, unresponsive, and having persistent fevers
   thought to be due to drugs, but now waking up a little more, weaning
   from vent, and hasn't now had fevers since [**2191-7-13**] 8am. Also seen to
   have sinusitis and mucosal thickenings on CT sinuses.
   1. Fevers--Has had negative workup for FUO and leading thought is that
   these were drug fevers, and so all unnecessary drugs were stopped and
   Dilantin has now been tapered. WBC's were 13-14 but going down this am.
   Now with concerning CT scan, and we are treating presumed sinus
   infections.
   --F/u with ENT
   --Continue Augmentin for bacterial sinusitis
   --Continue nasal sprays
   --Plan for re-imaging in a few more days
   --Checking Cx's qod, last one collected today
   2. ESRD--To get HD today
   --Will try to hold Midodrine before/after HD today and watch bp.
   --If fails that, then Midodrine before HD on Friday
   3. Drop in Hct over last 24 hrs
   --Will repeat Hct later this afternoon
   --Increase Epo to 5000U with HD today per renal.
   --Consider transfusing with HD today but can likely f/u pm Hct and
   watch
   --Has PICC and HD line
   --Get new T&S this am
   4. Seizure: Still no e/o ongoing seizure activity. Repeat EEG [**2191-9-12**]
   still pending. Continues on Keppra 500mg in am and 250mg in pm.
   Continue 500mg boluses after HD.
   5. DM: On SSI + lantus 40 daily. BS's well controlled yesterday 100-140
   --Continue insulin regimen as is
   6. Hypotension--Not requiring pressors. Off Fluoronef and Midodrine
   parameters now decreased to sbp >100. Poor autonomic function given
   renal failure vs sepsis. [**Last Name (un) 1398**] stim test adequate.
   --Watch bp's through today and if continued good pressures can d/c
   Midodrine
   7. Respiratory Distress: Tolerated t-piece well and had decent ABG
   yesterday am.
   --Continue weaning vent, currently on T piece this am
   8. Mental Status change: Appears to be a little more responsive to
   stimuli but still not following commands.
   --Hold sedation
   --Keppra for seizures
   --Continue to treat underlying conditions--sinus infxn?
   9. Scrotal and buttock ulcers
 most likely dependent skin ulcers.
   Herpes DFA - negative
   --continue wound care
   10. SDH
Hold anticoagulation.
   --Repeat EEG pending
   11. Glaucoma /  Cataracts: continue home eye drops.
   # Access: R sided HD line, L PICC, and PEG tube
   # FEN: TF's through PEG
   # PPX: pneumoboots,  PPI, bowel regimen, no subQ heparin due to SDH's
   # Code: full (confirmed with wife on admission via phone)
   # Dispo:  f/u with case management for transfer to rehab facility
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2191-9-13**] 03:00 PM
   PICC Line - [**2191-9-13**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Stable for d/c today to [**Hospital1 664**]. Will not get HD today, but tomorrow at
   rehab facility, will give appropriate instructions to accepting
   facility as pt may need 10 mg Midodrine before HD. Also may need 1U
   PRBC
s during HD tomorrow.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 8964**], MD
   on:[**2191-9-14**] 13:18 ------

2191-09-14 11:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2191-9-13**] 12:15 PM
 ANGIOGRAPHY - At [**2191-9-13**] 12:30 PM
   to IR for picc line and tunneled dialysis line
 TUNNELED (HICKMAN) LINE - START [**2191-9-13**] 03:00 PM
   placed in ir
 PICC LINE - START [**2191-9-13**] 03:00 PM
 PEG INSERTION - At [**2191-9-13**] 04:49 PM
   per ip at the bedside
 DIALYSIS CATHETER - STOP [**2191-9-13**] 07:00 PM
 BLOOD CULTURED - At [**2191-9-14**] 05:25 AM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Hydromorphone
   Unknown;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2191-9-13**] 04:30 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-9-13**] 04:45 PM
   Propofol - [**2191-9-13**] 05:35 PM
   Fentanyl - [**2191-9-13**] 06:00 PM
   Lansoprazole (Prevacid) - [**2191-9-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: Edema, Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: tracheostomy
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: minimally responsive
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-9-14**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 87 (74 - 93) bpm
   BP: 141/64(81) {73/33(42) - 172/80(92)} mmHg
   RR: 24 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 94.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,000 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                    790 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    850 mL
   Urine:
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                   -739 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 447 (367 - 447) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Trache
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), failed fistula R
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   373 K/uL
   116 mg/dL
   9.0 mg/dL
   25 mEq/L
   4.6 mEq/L
   50 mg/dL
   99 mEq/L
   141 mEq/L
   24.9 %
   10.9 K/uL
        [image002.jpg]
                            [**2191-9-8**]  02:26 AM
                            [**2191-9-9**]  03:20 AM
                            [**2191-9-10**]  02:30 AM
                            [**2191-9-10**]  03:44 AM
                            [**2191-9-10**]  05:18 PM
                            [**2191-9-11**]  02:55 AM
                            [**2191-9-12**]  03:36 AM
                            [**2191-9-13**]  04:03 AM
                            [**2191-9-13**]  10:59 AM
                            [**2191-9-14**]  05:10 AM
   WBC
   8.1
   9.4
   16.6
   14.9
   13.9
   13.8
   10.9
   Hct
   28.7
   29.2
   28.4
   30.0
   28.3
   28.6
   24.9
   Plt
   [**Telephone/Fax (3) **]76
   437
   387
   373
   Cr
   5.3
   7.6
   5.4
   7.5
   8.8
   7.6
   9.0
   TCO2
   34
   31
   Glucose
   174
   219
   107
   272
   254
   82
   116
   Other labs: PT / PTT / INR:11.9/22.0/1.0, CK / CKMB /
   Troponin-T:75/2/0.28, ALT / AST:38/87, Alk Phos / T Bili:270/0.7,
   Amylase / Lipase:41/42, Differential-Neuts:82.4 %, Band:1.0 %,
   Lymph:6.0 %, Mono:6.5 %, Eos:4.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.5
   g/dL, LDH:266 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   He has improved his mental status but is still intermittently
   interactive. Does follow simple commands.  Hopefully will regain
   additional function as SDH decreases in size.  Now again off ventilator
   but cough remains poor and I doubt he can be decannulated without
   signifficant improvement in neurological fxn.  Catheters placed
   yesterday - PICC and tunnelled HD line.  Has become afebrile - suspect
   this was phenytoin exascerbated this weekend by sinusitis.  Plan for
   transfer to [**Hospital1 664**] today.
   ICU Care
   Nutrition:
   Comments: Tube feeds per PEG
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2191-9-13**] 03:00 PM
   PICC Line - [**2191-9-13**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes